2107-01-04 07:40:00 Physician Resident Progress Note
Chief Complaint: 25M with hyperglycemia, altered mental status.
   24 Hour Events:
 EKG - At [**2107-1-3**] 08:00 AM
 MULTI LUMEN - START [**2107-1-3**] 02:00 PM
   [**2107-1-3**]:
   - Unable to get PICC line placed, pt did get L IJ placed successfully.
   IO line removed.
   - Pt with significant nausea and bilious vomitting, concerning for
   ileus, had CT abdomen with oral and IV contrast nonfocal except
   bibasilar opacities c/w aspiration.
   - Na still 170 after 6 hours of D5W (down from 188), switching to
   D51/2NS to slow down rate of correction.  Switched back to D5W this
   morning.
   - Flu swab negative.
   - RUQ U/S cholelithiasis w/o cholecysitis.
   - Grossly guiac positive black emesis, has 2 crossmatched units, active
   type and screen.
   - Mother received diabetes education.
   Afternoon addendum:
   - Patient intubated after respiratory decompensation.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Nonverbal at baseline.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-4**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-4**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 117 (99 - 119) bpm
   BP: 91/53(61) {86/40(53) - 129/80(92)} mmHg
   RR: 48 (12 - 48) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,262 mL
                                                                  1,302 mL
   PO:
             TF:
   IVF:
                                                                  5,602 mL
                                                                  1,242 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    700 mL
   Urine:
                                                                  1,035 mL
                                                                    300 mL
   NG:
                                                                    420 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  4,807 mL
                                                                    605 mL
   Respiratory support
   O2 Delivery Device: Intubated, volume control
   SpO2: 97%
   Physical Examination
   Gen: Pt intubated, sedated.
   HEENT: PERRL
   Resp: Bilateral breath sounds.
   GI: Abd distention, soft.
   Labs / Radiology
   62
   10.9
   408
   1.4
   15
   5.5
   17
   133
   153
   34.6 %
   1.4 K/uL
        [image002.jpg]
                             [**2107-1-3**]  01:54 AM
                             [**2107-1-3**]  03:35 AM
                             [**2107-1-3**]  06:01 AM
                             [**2107-1-3**]  02:20 PM
                             [**2107-1-3**]  06:30 PM
                             [**2107-1-3**]  09:59 PM
                             [**2107-1-4**]  05:44 AM
   WBC
   6.9
   7.2
   1.4
   Hct
   45.0
   38.9
   36.7
   Plt
   108
   117
   Cr
   1.0
   1.8
   1.2
   1.4
   1.3
   TropT
   0.05
   0.06
   0.06
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 12993**]
   Other labs:
   [1][image003.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Smr
                                   Plt Ct
                                   INR(PT)
   [2][**2107-1-4**] 09:42AM
   VERY LOW
                                     62*
   Source: Line-CVL
   [3][**2107-1-4**] 05:44AM
   VERY LOW
                                   74*[1]
   Source: Line-central
   [4][**2107-1-4**] 05:44AM
                                    13.5*
                                    33.9
   1.2*
   Source: Line-central
   BASIC COAGULATION (FIBRINOGEN, DD, TT, REPTILASE, BT)
                                   Fibrino
   [5][**2107-1-4**] 05:44AM
                                    517*
   [6][image004.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [7][**2107-1-4**] 05:44AM
                                     41*
                                     21
                                    336*
                                    170*
                                     0.4
   DIABETES MONITORING
                                   %HbA1c
   [8][**2107-1-3**] 09:20AM
                                    9.7*
   [9][image003.gif]   OTHER ENZYMES & BILIRUBINS
                                   Lipase
   [10][**2107-1-4**] 05:44AM
                                     25
   [11][image003.gif]   WHOLE BLOOD, MISCELLANEOUS CHEMISTRY
                                   Glucose
                                   Lactate
                                     Na
                                      K
                                     Cl
   [12][**2107-1-4**] 02:22PM
                                     1.8
   [13][image003.gif]   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [14][**2107-1-4**] 09:42AM
                                   Yellow
                                    Hazy
                                    1.048
   [15][image003.gif]   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [16][**2107-1-4**] 09:42AM
                                     12*
                                     12*
                                    NONE
                                    NONE
                                      0
                                                                [**2107-1-4**]
                                                                     4:43p
   _______________________________________________________________________
                                     pH
                                    7.13
                                    pCO2
                                     49
                                     pO2
                                     43
                                    HCO3
                                     17
                                   BaseXS
                                     -13
   Comments:
   pH: No Calls Made - Not Arterial Blood
   Type:[**Last Name (un) **]; Intubated; FiO2%:60; Rate:24/10; TV:210; PEEP:5; Temp:36.8
   Comments:
   Temp: 96.3 Ax
   K:5.6
   Lactate:2.6
   Imaging: Preliminary Report !! [**Last Name (un) 12994**] !!
   1. Bibasilar areas of consolidation and peribronchovascular
   ground-glass
   opacities, probably representing combination of atelectasis with
   possible
   aspiration, inflammation, and/or infection. Trace right pleural
   effusion.
   2. Patulous esophagus with circumferential wall thickening _____ fluid
   within
   the distal esophagus.
   3. Fluid within the mesentery and pelvis. Nonspecific thickening noted
   within some loops of small bowel and also the ascending colon. Findings
   are
   nonspecific, possibly representing enteritis and colitis. Appendix not
   visualized. No bowel obstruction seen.
   4. Area of hypoattenuation within the right hepatic lobe has somewhat
   rounded
   appearance but has vessels coursing through it, rendering abscess less
   likely.
   Findings could represent area of focal fatty infiltration or other
   benign
   entity.
   DR. [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) 12994**] entered: MON [**2107-1-3**] 11:21 PM
   RUQ Ultrasound
   Preliminary Report !! [**Year (4 digits) 12994**] !!
   IMPRESSION: Cholelithiasis, without findings of acute cholecystitis.
   DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]
   [**Last Name (NamePattern1) 12994**] entered: MON [**2107-1-3**] 7:24 PM
   Microbiology:
   [17][**2107-1-4**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [18][**2107-1-4**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [19][**2107-1-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [20][**2107-1-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [21][**2107-1-3**]
   Influenza A/B by DFA
   DIRECT INFLUENZA A ANTIGEN TEST-FINAL; DIRECT INFLUENZA B ANTIGEN
   TEST-FINAL
   INPATIENT
   [22][**2107-1-3**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   ASSESSMENT & PLAN:
   25 yo M with microcephaly/cerebral palsy who presents with DKA,
   hypernatremia, acute renal failure.
   Respiratory:
   # Acute respiratory failure
 Patient has hypoxic, hypercarbic
   respiratory failure.  Likely source is aspiration pneumonia/pneumonitis
   identified on CT and CXR.
   - Abx: Ciprofloxacin, Vancomycin, Piperacillin-Tazobactam
   - Intubation: volume control
   - Sedation with fentanyl, midazolam.
   Cardiovascular:
   # Sepsis: likely a result of aspiration pneumonia.
   - Phenylephrine 0.5-5 mcg/kg/min IV drip. Titrate to MAP >55
   - Blood and urine cultures pending
   - Continue volume-repletion with LR to CVP 10-12.
   # L Groin edema: asymmetry noted on exam. Likely a result of systemic
   inflammation and increased permeability.
   - L groin ultrasound to rule out pseudoaneurysm/clot.
   Metabolic:
   #Acidosis: Likely a combination of anion gap acidosis (DKA, sepsis) and
   nongap.  Patient also likely has chronic respiratory acidosis with
   metabolic compensation.
   - Continue frequent VBG checks as glucose and infection, and
   respiration are controlled.
   Endocrine
   #  DKA/HHNonK syndrome:  Possible inciting events: viral
   gastroenteritis, fungal skin infection.  U/A was unremarkable for
   infection.  Troponins were unremarkable.
   Current labs: glucose = 408, Na = 168
   - Continue maintenance with D5W or D5
 NS.
   - Continue with insulin drip and IV insulin as needed.
   - Monitor Chem7 every 3 hours.  Replete K and Phos as needed.
   Renal
   # Acute renal failure
 Patient presented with elevated BUN and Cr.
   Likely cause is prerenal from DKA/HHS diuresis.
   - Will continue to rehydrate and monitor BUN/Cr and urine output.
   GI
   # Heme positive emesis
 Pt had heme positive emesis on [**1-4**] morning.
   Abdomen soft but distended. RUQ US showed cholelithiasis w/o
   cholecystitis.  Pt hematocrit remains stable.
   - Continue frequent abdominal exams.
   - Continue protonix.
   - Continue monitoring HCT.
   ICU Care
   Nutrition: Intubated.
   Glycemic Control:  See above.
   Lines:
   Left IJ Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: Compression stockings.
   GI: Protonix, Docusate Sodium, Ondansetron, Metoclopramide (PRN nausea)
   Code status: Full code
   Contact : Parents, direct contact
   Disposition: ICU
References
   1. javascript:command('LHBI','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
   6. javascript:command('LCBD','expand')
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
   9. javascript:command('LCBE','expand')
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_31%22);
  11. javascript:command('LGBE','expand')
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_54%22);
  13. javascript:command('LHUA','expand')
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
  15. javascript:command('LHUC','expand')
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2107-01-05 07:36:00 Physician Resident Progress Note
Chief Complaint: 25 year old male with history of microcephaly,
   cerebral palsy presented in Hyperglycemic hyperosmolar syndrome.  Now
   with aspiration pneumonia/pneumonitis and systemic inflammatory
   involvement.
   24 Hour Events:
   [**1-4**]
   -intubated
   -PCP called
   [**Name9 (PRE) **] meeting
   -platelets lower, DIC labs normal
   -holding SQ hep, teds DVT proph
   -vanc zosyn and cipro recommended by ID
   -Brachial a line attempt unsuccessful
   -Ordered US for LLE/groin swelling
   -insulin increased to 24 then to 32, plus 10 x2, sugars persistantly
   over 350, however gap closing
   -still metabolically deranged: NG acidosis, resp acidosis --> leave
   vent settings as is for now
   -stopped d5, reassess when BS <300
   -on max neo, cvp 10-12, edematous, cuff readings ranginf 80s
   -oliguric
   -code discussion ongoing
   -ECG ordered for K 5.6, no peaked t waves, now resolved, got one dose
   kayexylate
   - cv sat ok
   -kub ordered  for firmer abd
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2107-1-4**] 05:00 PM
   Vancomycin - [**2107-1-4**] 08:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-5**] 02:39 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 4 mcg/Kg/min
   Insulin - Regular - 32 units/hour
   Other ICU medications:
   Insulin - Regular - [**2107-1-4**] 09:32 PM
   Pantoprazole (Protonix) - [**2107-1-5**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Flowsheet Data as of  [**2107-1-5**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 76 (75 - 128) bpm
   BP: 97/29(44) {75/20(32) - 261/152(176)} mmHg
   RR: 27 (0 - 68) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
    CVP: 14 (11 - 15)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  8,813 mL
                                                                    738 mL
   PO:
   TF:
   IVF:
                                                                  8,663 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                     23 mL
   Urine:
                                                                    675 mL
                                                                     23 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  7,738 mL
                                                                    715 mL
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
   [2][**2107-1-5**] 04:28AM
                                CENTRAL VE[1]
                                    35.6
                                     24/
                                     230
                                      5
                                     60
   43*[2]
                                     48*
                                  7.14*[2]
                                     17*
                                     -13
                                ASSIST/CON[3]
                                  INTUBATED
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 230 (210 - 230) mL
   RR (Set): 24
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Unstable Airway
   PIP: 18 cmH2O
   Plateau: 0 cmH2O
   SpO2: 98%
   ABG: ///15/
   Ve: 7.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   9.9 g/dL
   366 mg/dL
   1.6 mg/dL
   15 mEq/L
   3.9 mEq/L
   18 mg/dL
   124 mEq/L
   149 mEq/L
   31.1 %
   10.0 K/uL
        [image003.jpg]                       3:58am
                             [**2107-1-4**]  05:44 AM
                             [**2107-1-4**]  09:42 AM
                             [**2107-1-4**]  09:43 AM
                             [**2107-1-4**]  01:49 PM
                             [**2107-1-4**]  06:46 PM
                             [**2107-1-4**]  10:47 PM
                             [**2107-1-4**]  11:05 PM
                             [**2107-1-5**]  01:12 AM
                             [**2107-1-5**]  03:58 AM
                             [**2107-1-5**]  04:28 AM
   WBC
   1.4
   1.4
   10.0
   Hct
   36.7
   34.6
   33.9
   31.1
   Plt
   74
   62
   80
   Cr
   1.3
   1.2
   1.4
   1.4
   1.3
   1.6
   Glucose
   233
   245
   408
   533
   [**Telephone/Fax (3) 13007**]
    ALT / AST:41/21, Alk Phos / T Bili:170/0.4, Amylase / Lipase:/25,
   Differential-Neuts:56.0 %, Band:15.0 %, Lymph:25.0 %, Mono:4.0 %,
   Eos:0.0 %, Fibrinogen:517 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.7
   g/dL, LDH:336 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:5.1 mg/dL
   [3][image001.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Smr
                                   Plt Ct
                                   INR(PT)
   [4][**2107-1-5**] 03:58AM
   LOW
                                     80*
   Source: Line-CVL
   [5][**2107-1-5**] 03:58AM
                                    15.7*
                                    41.0*
   1.4*
   ANTIBIOTICS
                                    Vanco
   [6][**2107-1-5**] 06:00AM
                                    41.4*
   Final Report
   HISTORY: Aspiration pneumonia, now with intubation.
   To assess for change.
   FINDINGS: In comparison with the study of earlier in this date, there
   appears
   to be increasing opacification at the right base, suggesting worsening
   of the
   aspiration pneumonia. Somewhat less prominent changes are also seen at
   the
   left base.
   The endotracheal tube tip cannot be seen due to overlying metallic
   devices.
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) **]
   Approved: TUE [**2107-1-4**] 3:06 PM
   Final Report
   CHEST RADIOGRAPH
   INDICATION: Evaluation for interval change.
   COMPARISON: [**1-2**] and [**2107-1-3**].
   FINDINGS: As compared to the previous radiograph, a newly appeared
   extensive
   opacity in the lung parenchyma is seen both at the bases of the right
   and of
   the left lung. The opacities were not visible on the previous
   radiographs.
   The opacities are strongly suggestive of bilateral aspiration
   pneumonias.
   Otherwise, no relevant change is detected. No evidence of larger
   pleural
   effusions. The size of the cardiac silhouette is unchanged. The
   referring
   physician [**Last Name (NamePattern4) **]. [**First Name8 (NamePattern2) 2582**] [**Last Name (NamePattern1) 2391**] was paged and notified at the time of
   dictation.
   DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 13008**]
   Approved: TUE [**2107-1-4**] 10:02 AM
   Microbiology
 BLOOD CULTURED - At [**2107-1-4**] 08:30 AM
   from CVL
 BLOOD CULTURED - At [**2107-1-4**] 09:45 AM
 URINE CULTURE - At [**2107-1-4**] 10:00 AM
 INVASIVE VENTILATION - START [**2107-1-4**] 01:15 PM
 SPUTUM CULTURE - At [**2107-1-4**] 10:06 PM
 STOOL CULTURE - At [**2107-1-5**] 03:23 AM
   Assessment and Plan
 SHOCK, OTHER
   Clinically appearing septic, on broad spectrum antibiotics, also
   severely hypovolemic [**1-4**] osmotic diuresis.
   - ABX: ciprofloxacin, vancomycin, pipercillin-tazobactam
   - phenylephrine 0.5-5 mg/kg/min IV drip. Titrate to MAP >55
   - blood and urine cultures pending.
   - continue volume repletion with LR to CVP 10-12.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Hypoventilatory, chronic CO2 retention and unable to ventilate in
   setting of metabolic acidosis
   -  Intubated (sedation with fentanyl, midazolam)
 ACIDOSIS, MIXED
   NG metabolic, hyperchloremic and respiratory, likely chronic, small AG
   metabolic acidosis (corrected for albumin AG=16)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Suspect ATN from poor perfusion
 PNEUMONIA, ASPIRATION
   broad coverage for now given sepsis
 HYPERGLYCEMIA
   Persisting even on insulin gtt
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LLE/groin edema
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   Abdominal distention
 OLIGURIA/ANURIA
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   Stable for now. No ECG changes with K 5.6
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   baseline non-verbal but more lethargic
 EDEMA, PERIPHERAL
   anasarcic [**1-4**] fluid resusitation
 LEUKOPENIA
   in setting of sepsis
 THROMBOCYTOPENIA, ACUTE
   DIC labs negative, holding heparin SC
 HYPERNATREMIA (HIGH SODIUM)
   Normalizing
   ICU Care
   Nutrition: Intubated.
   Glycemic Control: See above
   Lines:
   Left IJ Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: compression stockings
   GI: protonix, docusate, ondansetron, metoclopramide.
   Communication:  parents
   Code status: Full code
   Disposition: ICU
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
   3. javascript:command('LHBI','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);

2107-01-05 07:40:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2107-1-4**] 08:30 AM
   from CVL
 BLOOD CULTURED - At [**2107-1-4**] 09:45 AM
 URINE CULTURE - At [**2107-1-4**] 10:00 AM
 INVASIVE VENTILATION - START [**2107-1-4**] 01:15 PM
 SPUTUM CULTURE - At [**2107-1-4**] 10:06 PM
 STOOL CULTURE - At [**2107-1-5**] 03:23 AM
   -intubated yesterday am
   -on vanc zosyn and cipro
   -a-line unable to be places
   -insulin increased to 24 then to 32, plus 10 x2, sugars persistantly
   over 350, however gap closing
   -on max neo, cvp 10-12, edematous, BPs
   -ECG ordered for K 5.6, no peaked t waves, now resolved, got one dose
   kayexylate
   -kub for firmer abd, film difficult to interpret but had BM and seemed
   stable to improved, with improved bowel sounds
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2107-1-4**] 05:00 PM
   Vancomycin - [**2107-1-4**] 08:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-5**] 02:39 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 4 mcg/Kg/min
   Insulin - Regular - 32 units/hour
   Other ICU medications:
   Insulin - Regular - [**2107-1-4**] 09:32 PM
   Pantoprazole (Protonix) - [**2107-1-5**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   sedated intubated, does not appear uncomfortable to mom this am
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2107-1-5**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 79 (75 - 128) bpm
   BP: 93/33(47) {75/20(32) - 261/152(176)} mmHg
   RR: 32 (0 - 68) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
    CVP: 14 (11 - 15)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  8,813 mL
                                                                    741 mL
   PO:
   TF:
   IVF:
                                                                  8,663 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                     23 mL
   Urine:
                                                                    675 mL
                                                                     23 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  7,738 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 230 (210 - 230) mL
   RR (Set): 24
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Unstable Airway
   PIP: 18 cmH2O
   Plateau: 0 cmH2O
   SpO2: 97%
   ABG: ///15/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress, appears less flushed and
   diaphoretic but more edematous
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 3+, L thigh and groin more edematous than right, skin taut but
   no warmth or erythema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   80 K/uL
   9.9 g/dL
   366 mg/dL
   1.6 mg/dL
   15 mEq/L
   3.9 mEq/L
   18 mg/dL
   124 mEq/L
   149 mEq/L
   31.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2107-1-4**]  05:44 AM
                             [**2107-1-4**]  09:42 AM
                             [**2107-1-4**]  09:43 AM
                             [**2107-1-4**]  01:49 PM
                             [**2107-1-4**]  06:46 PM
                             [**2107-1-4**]  10:47 PM
                             [**2107-1-4**]  11:05 PM
                             [**2107-1-5**]  01:12 AM
                             [**2107-1-5**]  03:58 AM
                             [**2107-1-5**]  04:28 AM
   WBC
   1.4
   1.4
   10.0
   Hct
   36.7
   34.6
   33.9
   31.1
   Plt
   74
   62
   80
   Cr
   1.3
   1.2
   1.4
   1.4
   1.3
   1.6
   Glucose
   233
   245
   408
   533
   [**Telephone/Fax (3) 13007**]
   Other labs: PT / PTT / INR:15.7/41.0/1.4, CK / CKMB /
   Troponin-T:1169/7/0.06, ALT / AST:41/21, Alk Phos / T Bili:170/0.4,
   Amylase / Lipase:/25, Differential-Neuts:56.0 %, Band:15.0 %,
   Lymph:25.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:517 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:336 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.1 mg/dL
   Microbiology: blood:
   [**1-2**]: NTD
   [**1-4**]: NTD
   stool:
   [**1-5**]: pnd
   sputum:
   gram stain with GPCs in pairs, yeast
   culture pending
   urine:
   [**1-2**]: final, no growth
   [**1-4**]: NTD
   Assessment and Plan
   25 yo M with cerebral palsy presenting with fever HHS/DKA picture now
   with sepsis, respiratory failure, academia intubated on phenylephrine.
 SHOCK, OTHER
   Clinically appearing septic, on broad spectrum antibiotics, also
   severely hypovolemic [**1-4**] osmotic diuresis. CV sat 70
   -continue phenylephrine, titrate to SBP by cuff around 85 (we are
   unsure if this represents actual arterial pressures but unable to get
   arterial access and has been stable
 RESPIRATORY FAILURE, ACUTE, concerning for ARDS
   Hypoventilatory, chronic CO2 retention and unable to ventilate in
   setting of metabolic acidosis. Also with CXR concerning for ARDS vs
   volume overload
   -switched to pressure support and breathing with good tidal volume
   -continue vent support
 ACIDOSIS, MIXED
   NG metabolic, hyperchloremic and respiratory, likely chronic, small AG
   metabolic acidosis (corrected for albumin AG=16). Labs all slowly
   slowly resolving
   -cont frequent lytes checking
   -cont LR if any volume resuscitation needed
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] recs
 HYPERGLYCEMIA
   Persisting even on insulin gtt
   Appreciate [**Last Name (un) 303**] recs
 RENAL FAILURE, ACUTE and ANURIC
   Suspect ATN from poor perfusion.  Close monitoring. Was not volume
   responsive to bolus which increased CVP from [**9-15**].
 PNEUMONIA, ASPIRATION
   broad coverage for now given sepsis
 LLE/groin edema
   -f/u US
 ABDOMINAL DISTENTION
   Has bowel sounds and having BMs. Stable but still concerning. monitor
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   Stable for now. No ECG changes with K 5.6
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   baseline non-verbal but more lethargic. [**Month (only) 51**] benefit from lifting of
   sedation a bit especially in anticipation that it will not be cleared
   given anuria
 EDEMA, PERIPHERAL
   anasarcic [**1-4**] fluid resuscitation
 THROMBOCYTOPENIA, now resolving
   DIC labs negative, platelets trending up
   -restart subcutaneous heparin for DVT proh
 HYPERNATREMIA (HIGH SODIUM)
   Normalizing
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2107-1-2**] 11:31 PM
   Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments: code, GOC discussion
   ongoing
   Code status: Full code
   Disposition:ICU

2107-01-06 07:27:00 Physician Resident Progress Note
Chief Complaint: 25 year old male presented in DKA/HHS.  Subsequently
   aspirated and had respiratory failure.  Was intubated and started broad
   antibiotic and antifungal coverage.  On pressors.
   24 Hour Events:
 STOOL CULTURE - At [**2107-1-6**] 01:18 AM
   [**1-6**]
   - bladder pressure ~90cm
   - increased phenylephrine w/ improved maps, urine output
   - holding vanc until trough <20
   - off insulin drip (glucose 100s) -> 60 gave dextrose
   - increased free fluid flushes (has 1.5L fluid defecit)
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-4**] 08:51 PM
   Fluconazole - [**2107-1-5**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-6**] 02:45 AM
   Ciprofloxacin - [**2107-1-6**] 05:12 AM
   Infusions:
   Phenylephrine - 4.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-5**] 08:26 PM
   Midazolam (Versed) - [**2107-1-6**] 01:00 AM
   Dextrose 50% - [**2107-1-6**] 04:59 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-6**] 05:12 AM
   Other medications:
   Flowsheet Data as of  [**2107-1-6**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.4
C (95.8
   HR: 87 (79 - 97) bpm
   BP: 111/50(64) {85/25(42) - 122/50(67)} mmHg
   RR: 27 (23 - 44) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
    CVP: 8 (8 - 21)mmHg
   Total In:
                                                                  3,408 mL
                                                                    750 mL
   PO:
   TF:
   IVF:
                                                                  2,858 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                    153 mL
                                                                    325 mL
   Urine:
                                                                    153 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,255 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST (
Assist control
   Vt (Set): 280 (230 - 280) mL
   Vt (Spontaneous): 230 (230 - 256) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   SpO2: 98%
   ABG: 7.21/34/52/10/-13
   Ve: 7.2 L/min
   PaO2 / FiO2: 87
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
   [2][**2107-1-6**] 04:53AM
                                     ART
                                    35.4
   280
                                      5
                                     60
   52*[1]
                                     34
                                  7.21*[1]
                                   14*[2]
                                     -13
   INTUBATED
   Physical Examination
   Eyes open, more awake, abdomen softer than yesterday.  Positive bowel
   sounds.  LLE swelling resolved.
   Labs / Radiology
   37 K/uL
   9.0 g/dL
   42 mg/dL
   2.1 mg/dL
   10 mEq/L
   3.2 mEq/L
   21 mg/dL
   121 mEq/L
   148 mEq/L
   27.2 %
   8.9 K/uL
        [image003.jpg] BUN, Cre rising despite urine production.
                             [**2107-1-4**]  06:46 PM
                             [**2107-1-4**]  10:47 PM
                             [**2107-1-4**]  11:05 PM
                             [**2107-1-5**]  01:12 AM
                             [**2107-1-5**]  03:58 AM
                             [**2107-1-5**]  04:28 AM
                             [**2107-1-5**]  03:58 PM
                             [**2107-1-5**]  08:44 PM
                             [**2107-1-6**]  04:17 AM
                             [**2107-1-6**]  04:53 AM
   WBC
   10.0
   8.9
   Hct
   31.1
   27.2
   Plt
   80
   37
   Cr
   1.4
   1.3
   1.6
   1.9
   2.0
   2.1
   TCO2
   14
   Glucose
   533
   504
   456
   [**Telephone/Fax (2) 13052**]60
   44
   42
   Other labs:
   PT / PTT / INR:15.7/41.0/1.4
   Lactic Acid:2.1 mmol/L
   Chemistry
   [3][image001.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [4][**2107-1-6**] 04:17AM
                                   44*[1]
                                     21*
                                    2.1*
                                    148*
                                    3.2*
                                   121*[2]
                                   10*[3]
                                     20
   Source: Line-CVL
   [5][**2107-1-5**] 08:44PM
                                   160*[4]
                                     20
                                    2.0*
                                     145
                                     3.4
                                    119*
                                    9*[5]
                                     20
   Source: Line-CVL; Random
   [6][**2107-1-5**] 03:58PM
                                   191*[4]
                                     20
                                    1.9*
                                    147*
                                     3.4
                                    118*
                                   14*[6]
                                     18
   Source: Line-left IJ
   [7][**2107-1-5**] 03:58AM
                                   403*[4]
                                     18
                                    1.6*
                                    149*
                                     3.9
                                   124*[7]
                                   15*[7]
                                     14
   [8][image001.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [9][**2107-1-6**] 04:17AM
                                     8.9
                                    2.97*
                                    9.0*
                                    27.2*
                                     92
                                    30.4
                                    33.1
                                    18.4*
                                   37*#[1]
   Source: Line-CVL
   [10][**2107-1-5**] 03:58AM
                                    10.0#
                                    3.29*
                                    9.9*
                                    31.1*
                                     94
                                    29.9
                                    31.7
                                    17.8*
                                     80*
   Source: Line-CVL
   [11][**2107-1-4**] 01:49PM
                                    33.9*
   Source: Line-CVL
   [12][**2107-1-4**] 09:42AM
                                    1.4*
                                    3.65*
                                    10.9*
                                    34.6*
                                     95
                                    29.9
                                    31.6
                                    18.0*
                                     62*
   ENZYMES & BILIRUBIN
                                   CK(CPK)
   [13][**2107-1-6**] 04:17AM
                                  6016*[1]
   Source: Line-CVL
   [14][**2107-1-5**] 06:00AM
                                  1322*[1]
   Source: Line-CVL; Vancomycin @ Trough
   [15][**2107-1-3**] 09:59PM
                                  1169*[1]
   Source: Line-aline
   [16][**2107-1-3**] 06:30PM
                                  1185*[1]
   [17][image001.gif]   ANTIBIOTICS
                                    Vanco
   [18][**2107-1-5**] 08:44PM
                                    35.6*
   Source: Line-CVL; Random
   [19][**2107-1-5**] 06:00AM
                                    41.4*
   [20][image001.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [21][**2107-1-6**] 04:17AM
                                     61*
                                    103*
                                    484*
                                  6016*[1]
                                    253*
                                     1.4
   Source: Line-CVL
   [22][**2107-1-5**] 03:58PM
                                     55*
                                     71*
                                    198*
                                    1.8*
   Imaging: CT Sinus
   IMPRESSIONS:
   1. Diffuse mild mucosal thickening with layering high-density fluid
   seen
   throughout the paranasal sinuses. Fungal colonization is not excluded,
   nor is
   infection.
   2. Area of demineralization along the superior aspect of the medial
   right
   maxillary sinus wall.
   3. Opacification of the [**Last Name (un) 1292**] and oropharynx, with ET tube and NG tube
   in
   place.
   4. Marked ventriculomegaly with very thin cerebral cortex, incompletely
   visualized on the current study.
   DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]
   [**Last Name (NamePattern1) 12994**] entered: [**Doctor First Name **] [**2107-1-6**] 12:06 AM
   CT Abdomen Pelvis
   Preliminary Report !! [**Year (4 digits) 12994**] !!
   1. Extensive right lung and left lower lobe consolidations with air
   bronchograms are new compared to two days prior, with increased left
   greate than right small pleural effusions.
   2. Foley balloon catheter located within the urinary bladder. There is
   new
   diffuse anasarca with slight increase in small ascites. No definite
   findings
   to account for increased abdominal pressure otherwise.
   3. While small bowel loops which are better distended today show no
   wall
   thickening, there is apparent persistent wall thickening along the
   ascending
   and descending colon, representing non-specific colitis.
   4. Patulous esophagus with circumferential wall thickening, again
   possibly representing esophagitis. Intraluminal fluid extends to the
   thoracic inlet,
   increasing risk for aspiration.
   5. Rounded peripheral hypodense region in the right hepatic lobe
   re-demonstrated on non-contrast study, probably representing focal
   fatty infiltration.
   DR. [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) 12994**] entered: [**Doctor First Name **] [**2107-1-6**] 3:02 AM
   Microbiology: [**2107-1-6**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-PENDING INPATIENT
   [**2107-1-5**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING INPATIENT
   [**2107-1-5**]  STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING;
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL INPATIENT
   [**2107-1-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2107-1-4**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2107-1-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2107-1-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-1-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 SHOCK
 Patient appears to be in septic shock.  CVP 8. Not fluid
   responisive.  Source possibilities: blood, urine, lungs, skin. Sputum
   showed 4+ yeast and 1+ GPC in pairs. Urine cultures negative. Stool
   negative for C. diff.  CT sinus and CT torso do not reveal source of
   infection, but CT sinus cannot rule out fungal or bacterial infection.
   - ciprofloxacin 400 mg IV Q24H (per pharm)
   - vancomycin: discontinued until level < 20 reached (per pharm)
   - piperacillin-tazobactam 2.25 g IV Q6H (per pharm)
   - fluconazole 200 mg IV Q24H day 1 [**2-2**]
   - phenylephrine 0.5-5 mg/kg/min IV drip. Titrate to MAP by cuff >70.
   4.2mg/kg/min not too high.
   - blood (fungus and bacteria) and fecal cultures pending
   - continue lactate checks
 RESPIRATORY FAILURE, ACUTE
 On [**1-4**] patient was intubated after CXR
   and CT documented aspiration pneumonia/pneumonitis.  Pt
s anatomy makes
   him a chronic CO2 retainer and unable to ventilate in setting of
   metabolic acidosis (see below).
   - continue ventilation: Changed to assist control (settings: RR=24,
   TV=280, FIO2=60%)
280 by 24 at 60% with PEEP 5
 Breathing at 26.
   - pressure support trial.  Want tidal volumes 240-250ml considering
   patient
s height of [**3-9**]
   - lower FiO2 to 50%
   - continue broad antibiotic coverage as above
 ACIDOSIS, MIXED
 Nongap contributors: early renal failure,
   dilutional (rapid infusion of HCO3 free NS fluid). Gap contributors:
   DKA, lactic acidosis (sepsis), uremia.  Labs slowly resolving.
   - continue AVG checks
 RENAL FAILURE, ACUTE
 Suspect ATN from poor perfusion.  Urine output
   rising, however, BUN and Cre up.
   - continue chem. 10 checks
   - dose antibiotics to creatinine clearance of zero.
   - continue monitoring urine output.
 HYPERGLYCEMIA and HYPERNATREMIA
 Pt originally presented in DKA with
   previously unknown diabetes.
   [**Last Name (un) 303**] note on [**1-5**] said insulin resistance due to acidosis, infection,
   and pressors.  They recommended increasing insulin up to 40U/hr until
   glucose within 140-180 range.
   Overnight glucose came under control and patient even became
   hypoglycemic.
   - Insulin 100 Units/100 ml NS @ 0.5-60 units/hr IV. Fingersticks every
   hour.
   - Free H2O boluses via OG tube for hypernatremia ([**First Name8 (NamePattern2) **] [**Last Name (un) 303**] recs).
 ABDOMINAL DISTENTION
 Pt abdomen firm and distended.  Possibility of
   intra abdominal process.  Bladder pressure readings were 190-200(?). CT
   scan showed no acute abdominal pathology.  Bladder pressure likely a
   result of patient
s unique anatomy and some generalized GI
   inflammation.
   Patient
s CK rising likely a result of global low grade
   rhabdomyolysis.
   - Continue to increase urine flow with pressors.  Neither lasix nor
   bicarb not appropriate at this time.
   - Continue to follow CK, lactate, and perform abdominal exams.
 ANEMIA, THROMBOCYTOPENIA
s hematocrit and plts dropping.
   Concern for TTP and DIC.
   - Stop subcutaneous heparin given thrombocytopenia
   - RBC morphology
   - Recheck DIC labs
   ICU Care
   Nutrition: Begin tube feeds.
   Glycemic Control:  See above
   Lines: 20 Gauge - [**2107-1-2**] 11:31 PM,  Left IJ Multi Lumen -
   [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: compression stockings.
   Stress ulcer: PPI
   Communication:  Parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU.
   14:07
   ------ Protected Section ------
   PGY-1 ADDENDUM
   Patient seen and examined. Opened eyes this morning. Belly still firm
   but having bowel movements. Urine output improved. Plan as above.
   In brief, by problem:
 SHOCK
   -Continue antibiotcs: cipro, vanc (dosed by level), zosyn, fluconazole
   -Continue phenylephine but add vasopressin to improve renal perusion
   and also help with electrolytes
 RESPIRATORY FAILURE, ACUTE
   - trial of pressure support  as long as tidal volumes are in 240-250
   range
   - wean FiO2 as tolerated
 ACIDOSIS, MIXED
   - continue to monitor
 RENAL FAILURE, ACUTE
   -increase pressure to offset intraabdominal pressure which seems to be
   impairing perfusion
 HYPERGLYCEMIA and HYPERNATREMIA
   -continue with insulin gtt protocol (currently has had low sugars so no
   insulin but would avoid subcutaneous insulin as will be difficult to
   dose and monitor.
 ABDOMINAL DISTENTION
   -follow urine output, increase pressors
   - Continue to follow CK, lactate, and perform abdominal exams.
 ANEMIA, THROMBOCYTOPENIA
s hematocrit and plts dropping.
   Concern for TTP and DIC.
   - Stop subcutaneous heparin given thrombocytopenia
   - RBC morphology
   - Recheck DIC labs
   ------ Protected Section Addendum Entered By:[**Name (NI) 113**] [**Last Name (NamePattern1) **], MD
   on:[**2107-1-6**] 14:23 ------
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);
   3. javascript:command('LCBA','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
   8. javascript:command('LHBC','expand')
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
  17. javascript:command('LCBh','expand')
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);
  20. javascript:command('LCBD','expand')
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);

2107-01-07 07:30:00 Physician Resident Progress Note
Chief Complaint: 25M with cerebral palsy/microcephaly admitted for
   DKA/HHS.  Later intubated after aspiration and hypercarbic respiratory
   failure.  Currently with sepsis, renal failure, and rising CK.
   24 Hour Events:
   - Overnight temperature to 99.8
 BLOOD CULTURED - At [**2107-1-6**] 10:00 PM
   left ij tlcl
 BLOOD CULTURED - At [**2107-1-6**] 10:25 PM
   left ij tlcl
 URINE CULTURE - At [**2107-1-6**] 10:25 PM
   [**1-7**]
   - CK continued to climb higher than 12,000.
   - Could not find peds pneumaboots despite searching all the way at
   [**Hospital1 **].
   - Transfusing 1 unit PRBCs for falling HCT.
   - Glucose fingersticks rising.  Restarted insulin drip.
   - Ventilator settings lowered to FiO2 40% but unsuccessful trial on
   pressure support.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-4**] 08:51 PM
   Fluconazole - [**2107-1-6**] 08:00 AM
   Ciprofloxacin - [**2107-1-6**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-7**] 02:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2107-1-6**] 12:00 PM
   Pantoprazole (Protonix) - [**2107-1-6**] 07:30 PM
   Other medications:
   Flowsheet Data as of  [**2107-1-7**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 100 (83 - 114) bpm
   BP: 103/56(67) {94/41(54) - 130/68(82)} mmHg
   RR: 0 (0 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49.2 kg (admission): 37 kg
   Height: 56 Inch
    CVP: 8 (4 - 15)mmHg
   Total In:
                                                                  2,221 mL
                                                                    647 mL
   PO:
   TF:
   IVF:
                                                                  1,851 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    625 mL
   Urine:
                                                                  1,935 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    286 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 265 (265 - 265) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: ///12/
   Ve: 6.8 L/min
   Physical Examination
   Patient arousable, pupils asymmetric (L>R) equally reactive, abdomen
   distended as yesterday.
   Labs / Radiology
   36 K/uL
   7.6 g/dL
   186 mg/dL
   2.6 mg/dL
   12 mEq/L
   3.5 mEq/L
   28 mg/dL
   118 mEq/L
   146 mEq/L
   23.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2107-1-5**]  01:12 AM
                             [**2107-1-5**]  03:58 AM
                             [**2107-1-5**]  04:28 AM
                             [**2107-1-5**]  03:58 PM
                             [**2107-1-5**]  08:44 PM
                             [**2107-1-6**]  04:17 AM
                             [**2107-1-6**]  04:53 AM
                             [**2107-1-6**]  12:08 PM
                             [**2107-1-6**]  08:11 PM
                             [**2107-1-7**]  03:31 AM
   WBC
   10.0
   8.9
   8.8
   7.2
   Hct
   31.1
   27.2
   27.5
   23.6
   Plt
   80
   37
   36
   36
   Cr
   1.6
   1.9
   2.0
   2.1
   2.4
   2.4
   2.6
   TCO2
   14
   Glucose
   [**Telephone/Fax (3) **]91
   160
   44
   42
   54
   127
   186
   Other labs: Fibrinogen:556 mg/dL, Lactic Acid:3.4 mmol/L, Albumin:2.7
   g/dL, LDH:714 IU/L, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   [1][image003.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [2][**2107-1-7**] 03:31AM
                                     7.2
                                    2.56*
                                    7.6*
                                    23.6*
                                     92
                                    29.6
                                    32.1
                                    18.4*
                                     36*
   Source: Line-l ij tlcl
   [3][**2107-1-6**] 12:08PM
                                     8.8
                                    2.99*
                                    9.1*
                                    27.5*
                                     92
                                    30.4
                                    33.0
                                    18.3*
                                     36*
   Source: Line-CVL
   [4][**2107-1-6**] 04:17AM
                                     8.9
                                    2.97*
                                    9.0*
                                    27.2*
                                     92
                                    30.4
                                    33.1
                                    18.4*
                                   37*#[1]
   Source: Line-CVL
   [5][**2107-1-5**] 03:58AM
                                    10.0#
                                    3.29*
                                    9.9*
                                    31.1*
                                     94
                                    29.9
                                    31.7
                                    17.8*
                                     80*
   [6][image004.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Smr
                                   Plt Ct
                                   INR(PT)
                                    [**Name (NI) 13073**]
   [7][**2107-1-7**] 06:57AM
                                     PND
                                     PND
   PND
   Source: Line-CVL
   [8][**2107-1-7**] 03:31AM
   36*
   Source: Line-l ij tlcl
   [9][**2107-1-7**] 03:31AM
                                    16.3*
                                    43.8*
   1.4*
   [10][image004.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [11][**2107-1-7**] 06:57AM
   PND
                                     PND
   PND
   Source: Line-CVL
   [12][**2107-1-7**] 03:31AM
                                     67*
                                    154*
                                    714*
                                  [**Numeric Identifier 13072**]*[1]
                                    240*
   1.1
                                                                [**2107-1-7**]
                                                                    05:48a
   _______________________________________________________________________
                                     pH
                                    7.24
                                    pCO2
                                     30
                                     pO2
                                     38
                                    HCO3
                                     13
                                   BaseXS
                                     -14
   Comments:
   pH: Provider Notified [**Name9 (PRE) 54**] [**Name9 (PRE) **] Lab Policy
   Type:Mix; Intubated; FiO2%:40; Rate:24/; TV:280; PEEP:65;
   Mode:Assist/Control; Temp:37.1
   freeCa:1.04
   Lactate:3.4
                                                                [**2107-1-7**]
                                                                    05:42a
   _______________________________________________________________________
   Source: Line-l ij tlcl; Vancomycin @ Trough
   Other Blood Chemistry:
   Vanco: 24.7
   [13][image004.gif]   WHOLE BLOOD, MISCELLANEOUS CHEMISTRY
                                   Glucose
                                   Lactate
   [14][**2107-1-7**] 05:48AM
   3.4*
   Microbiology: [**2107-1-7**]  BLOOD CULTURE  Pending
   [**2107-1-7**]  BLOOD CULTURE  Pending
   [**2107-1-6**]  URINE  Pending
   [**2107-1-6**]  STOOL  Final
   [**2107-1-6**]  STOOL  Final
   [**2107-1-5**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)  Pending
   Assessment and Plan
 SHOCK
 Patient appears to be in septic shock.  CVP 8. Not fluid
   responisive.  Source possibilities: blood, urine, lungs, skin.
   - ciprofloxacin 400 mg IV Q24H (per pharm)
   - vancomycin: discontinued until level < 20 reached (per pharm)
   - piperacillin-tazobactam 2.25 g IV Q6H (per pharm)
   - fluconazole 200 mg IV Q24H day 1 [**2-2**]
   - phenylephrine 0.5-5 mg/kg/min IV drip. Vasopressin added.  Titrate to
   MAP by cuff >65.
   - blood (fungus and bacteria) and fecal cultures pending
   - continue lactate checks
 RESPIRATORY FAILURE, ACUTE
   - continue ventilation: assist control (settings: RR=24, TV=280,
   FIO2=40% with PEEP 5)
   - pressure support trial.  want tidal volumes 240-250ml considering
   patient
s height of [**3-9**]
   - lower FiO2 to 30%
   - continue broad antibiotic coverage as above
 ACIDOSIS, MIXED
 Nongap contributors: early renal failure,
   dilutional (rapid infusion of HCO3 free NS fluid). Gap contributors:
   DKA, lactic acidosis (sepsis), uremia.  Labs slowly resolving.
   - continue AVG checks
 RENAL FAILURE, ACUTE
 Suspect ATN from poor perfusion.  Urine output
   rising, however, BUN and Cre up.
   - continue chem. 10 checks
   - continue dosing antibiotics to creatinine clearance of zero.
   - continue monitoring urine output.
 HYPERGLYCEMIA and HYPERNATREMIA
 Pt originally presented in DKA with
   previously unknown diabetes.
   [**Last Name (un) 303**] note on [**1-5**] said insulin resistance due to acidosis, infection,
   and pressors.  They recommended increasing insulin up to 40U/hr until
   glucose within 140-180 range.  Overnight glucose rose again into 300s.
   Hypernatremia improving.
   - Insulin 100 Units/100 ml NS @ 0.5-60 units/hr IV. Fingersticks every
   hour.
 ABDOMINAL DISTENTION and RHABDO
 Abd remains distended. CT scan
   showed no acute abdominal pathology.  Patient
s CK rising likely a
   result of global low grade rhabdomyolysis.
   - continue to increase urine flow with pressors.
   - start lasix 10mg
   - continue to follow CK, lactate, and perform abdominal exams.
 ANEMIA, THROMBOCYTOPENIA
s hematocrit and plts dropping.  DIC
   labs were negative (no DIC), RBC morphology was normal (no TTP).
   - continue blood transfusions to keep HCT> 21.
   ICU Care
   Nutrition: Continue tube feeds.
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   restarted.
   Lines: Left Antecubital 20 Gauge - [**2107-1-2**] 11:31 PM, Left IJ Multi
   Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: None.  Unable to locate pneumoboots.
   GI: PPI, docusate, omeprazole
   Code status: DNR (do not resuscitate)
   Disposition:ICU
References
   1. javascript:command('LHBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   6. javascript:command('LHBI','expand')
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
  10. javascript:command('LCBD','expand')
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
  13. javascript:command('LGBE','expand')
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);

2107-01-08 14:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient received 1u pRBC
   FS were elevated, and so insulin gtt restarted, but
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-1-8**] 08:30 AM
   Ciprofloxacin - [**2107-1-8**] 11:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-8**] 02:10 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Dextrose 50% - [**2107-1-8**] 06:40 AM
   Pantoprazole (Protonix) - [**2107-1-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-8**] 02:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96
   HR: 88 (77 - 94) bpm
   BP: 93/43(55) {91/43(55) - 129/86(91)} mmHg
   RR: 22 (0 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.3 kg (admission): 37 kg
   Height: 56 Inch
    CVP: 8 (8 - 12)mmHg
   Total In:
                                                                  2,653 mL
                                                                  1,001 mL
   PO:
   TF:
                                                                    452 mL
                                                                    180 mL
   IVF:
                                                                  1,462 mL
                                                                    766 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  2,465 mL
                                                                  1,370 mL
   Urine:
                                                                  2,045 mL
                                                                  1,370 mL
   NG:
                                                                    420 mL
   Stool:
   Drains:
   Balance:
                                                                    188 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 15.6 cmH2O/mL
   SpO2: 97%
   ABG: ///15/
   Ve: 6.9 L/min
   Physical Examination
   Gen: arousable, opens eyes spontaneously
   CV: RR, no murmurs
   Pulm: Coarse BS
   Abd: Distended, NT
   Ext: + edema
   Labs / Radiology
   27 K/uL
   8.7 g/dL
   64 mg/dL
   2.5 mg/dL
   15 mEq/L
   4.0 mEq/L
   28 mg/dL
   117 mEq/L
   144 mEq/L
   26.1 %
   4.9 K/uL
        [image002.jpg]
                             [**2107-1-5**]  03:58 PM
                             [**2107-1-5**]  08:44 PM
                             [**2107-1-6**]  04:17 AM
                             [**2107-1-6**]  04:53 AM
                             [**2107-1-6**]  12:08 PM
                             [**2107-1-6**]  08:11 PM
                             [**2107-1-7**]  03:31 AM
                             [**2107-1-7**]  01:04 PM
                             [**2107-1-7**]  08:59 PM
                             [**2107-1-8**]  05:02 AM
   WBC
   8.9
   8.8
   7.2
   6.6
   5.3
   4.9
   Hct
   27.2
   27.5
   23.6
   26.6
   25.7
   26.1
   Plt
   37
   36
   36
   34
   33
   27
   Cr
   1.9
   2.0
   2.1
   2.4
   2.4
   2.6
   2.7
   2.6
   2.5
   TCO2
   14
   Glucose
   191
   160
   44
   42
   54
   127
   186
   84
   118
   64
   Other labs: PT / PTT / INR:15.4/33.2/1.3, CK / CKMB /
   Troponin-T:[**Numeric Identifier 13100**]/7/0.06, ALT / AST:89/198, Alk Phos / T Bili:223/2.4,
   Amylase / Lipase:/10, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:11.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.7 g/dL, LDH:589 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 DIARRHEA
 SHOCK, OTHER: Clinically appearing septic though culture data to date
   w/o growth.  CT sinus cannot r/o fungal infection, b-glucan >500.
   -- Continue cipro, zosyn, fluc
   -- Restart vanc (trough today <20)
   -- F/u culture data
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): ARDs, likely in the
   setting of aspiration.  CXR today looks improved.
   -- Trial of pressure support
   -- Wean as tolerated
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Suspect ATN from
   poor perfusion, also rhabdo.  Cr stable with some improvement and urine
   output is good.
   -- Renally dose all meds (Cr clearance zero)
   -- I
   -- Trend Cr
 HYPERGLYCEMIA: Resolved.  Currently off insulin gtt.
   -- Continue to monitor FS
 THROMBOCYTOPENIA, ACUTE: Plts continue to drop.  Cr is improving,
   previous DIC labs unrevealing and no schisto
s in smear.  His t bili is
   however elevated today.  Can be secondary to antibiotics.
   -- Add direct bili
   -- Transfuse plts<10 or active bleeding.
 RHABDO: CK and Cr beginning to decrease.  UO remains good.
   -- Trend CK, Cr
 RASH
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-7**] 10:47 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-1-2**] 11:31 PM
   Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: None, unable to locate pneumoboots
   Stress ulcer: PPI, bowel regimen
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Family

2107-01-09 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Taken off insulin gtt given stable FS, and [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] recs started on
   15u lantus and sliding scale
   - Did well on trial PSV 10/5 throughout most of the day, but then
   fatigued and was placed back on assist control
   - Vanc trough <20, so wrote for vanc one time dose
   - BP dropped to 70s levo restarted
   - High residuals 250, reglan standing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-1-8**] 08:30 AM
   Ciprofloxacin - [**2107-1-8**] 11:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-8**] 08:00 PM
   Dextrose 50% - [**2107-1-8**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-9**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 76 (74 - 97) bpm
   BP: 91/44(54) {89/42(54) - 113/63(71)} mmHg
   RR: 24 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.3 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  1,727 mL
                                                                    462 mL
   PO:
             TF:
                                                                    420 mL
                                                                    173 mL
   IVF:
                                                                  1,027 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    830 mL
   Urine:
                                                                  2,150 mL
                                                                    710 mL
   NG:
   120 mL
   Stool:
   Drains:
   Balance:
                                                                   -423 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 289 (289 - 289) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 16.5 cmH2O/mL
   SpO2: 100%
   ABG: ///15/
   Ve: 6.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   41 K/uL
   8.4 g/dL
   94 mg/dL
   2.5 mg/dL
   15 mEq/L
   3.0 mEq/L
   31 mg/dL
   120 mEq/L
   150 mEq/L
   24.6 %
   4.0 K/uL
        [image002.jpg]
                             [**2107-1-6**]  04:17 AM
                             [**2107-1-6**]  04:53 AM
                             [**2107-1-6**]  12:08 PM
                             [**2107-1-6**]  08:11 PM
                             [**2107-1-7**]  03:31 AM
                             [**2107-1-7**]  01:04 PM
                             [**2107-1-7**]  08:59 PM
                             [**2107-1-8**]  05:02 AM
                             [**2107-1-8**]  01:59 PM
                             [**2107-1-9**]  03:59 AM
   WBC
   8.9
   8.8
   7.2
   6.6
   5.3
   4.9
   4.0
   Hct
   27.2
   27.5
   23.6
   26.6
   25.7
   26.1
   24.6
   Plt
   37
   36
   36
   34
   33
   27
   41
   Cr
   2.1
   2.4
   2.4
   2.6
   2.7
   2.6
   2.5
   2.4
   2.5
   TCO2
   14
   Glucose
   44
   42
   54
   127
   186
   84
   118
   64
   198
   94
   Other labs: PT / PTT / INR:15.8/30.3/1.4, CK / CKMB /
   Troponin-T:8391/7/0.06, ALT / AST:98/148, Alk Phos / T Bili:301/1.8,
   Amylase / Lipase:/10, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:11.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:567 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:1.8 g/dL, LDH:448 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 DIARRHEA
 SHOCK, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, MIXED
 PNEUMONIA, ASPIRATION
 HYPERGLYCEMIA
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 THROMBOCYTOPENIA, ACUTE
 HYPERNATREMIA (HIGH SODIUM)
 RASH
   #. SHOCK, OTHER: On admission, clinically thought to be secondary to
   sepsis.  Blood cx on admission negative, and repeat blood cx w/o growth
   to date.  R/o for flu, urine cx neg, and neg legionella.  CT sinus
   cannot r/o fungal infection, b-glucan >500, though prelim fungal cx
   negative.
   -- Will d/w team tapering abx cipro, zosyn, and fluc as cultures have
   been non-revealing
   -- Hold vanc, trough elevated
   -- F/u culture data
   .
   #. RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): Patient did well on PSV
   throughout the day, placed back on volume control overnight.
   -- Continue trials of pressure support and wean as tolerated
   .
   #. HYPERNATREMIA:
   -- Check urine lytes
   -- Increase flushes through feeding tube
   -- [**Hospital1 7**] lytes
   #. RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Suspect ATN from
   poor perfusion, also rhabdo.  Cr stably elevated and patient continues
   to maintain adequate urine output.  Vanc trough today ~40.
   -- Renally dose all meds, hold vanc
   -- I
   -- Trend Cr
   .
   #. HYPERGLYCEMIA: Patient off insulin gtt, on insulin sliding scale
   with lantus qhs.
   -- Continue to monitor FS
   -- ISS w/ standing scale
   -- Appreciate [**Last Name (un) 303**] recs
   #. THROMBOCYTOPENIA, ACUTE: Previous DIC labs unrevealing and no
   schisto
s in smear, which is not consistent w/ TTP.  Timing of plt drop
   also not c/w HIT.  Likely secondary to antibiotics.
   -- Transfuse plts<10 or active bleeding.
   -- Continue to trend plts
   -- D/c antibiotics as above
   .
   #. RHABDO: CK and Cr beginning to decrease.  UO remains good.
   -- Trend CK, Cr
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-9**] 04:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-1-2**] 11:31 PM
   Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: No heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2107-01-10 07:32:00 Physician Resident Progress Note
Chief Complaint: 25M with cerebral palsy / microcephaly admitted for
   DKA/HHS.  Pt developed aspiration pneumonia/pneumonitis, respiratory
   failure, renal failure, septic shock.  Now intubated and on pressors.
   24 Hour Events:
 SPUTUM CULTURE - At [**2107-1-9**] 11:59 AM
 STOOL CULTURE - At [**2107-1-9**] 05:46 PM
   [**1-9**]
   - MAPs drifting down again requiring more neo. Switched to levophed,
   and pt became tachycardic to 110s. Switched back to neo, requiring
   higher dose than before.
   - Added on random cortisol which was 19, too low for pt requiring 2
   pressors.  [**Last Name (un) **] stim test to occur at 6am
   - Initially restarted heparin sc at lower dose (2500U [**Hospital1 7**]), however
   this was discontinued after discussion with pharmacy until platelets
   >50.
   - Abx course clarified:
   Day 1 vancomycin 1gm IV Q12H later changed to 0.75gm IV Q12H, [**2107-1-4**]
   Day 1 ciprofloxacin 400mg IV Q12, then changed to Q24
   Day 1 [**2107-1-5**] Piperacillin-Tazobactam 2.25 g IV Q6H
   Day 1 [**2107-1-5**] Fluconazole 200 mg IV Q24H
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-1-9**] 08:29 AM
   Ciprofloxacin - [**2107-1-9**] 11:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-10**] 01:31 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-9**] 08:14 PM
   Other medications:
   Flowsheet Data as of  [**2107-1-10**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 75 (72 - 104) bpm
   BP: 124/48(63) {82/35(49) - 124/67(107)} mmHg
   RR: 24 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.3 kg (admission): 37 kg
   Height: 56 Inch
    CVP: 10 (8 - 12)mmHg
   Total In:
                                                                  2,368 mL
                                                                    657 mL
   PO:
   TF:
                                                                    483 mL
                                                                     94 mL
   IVF:
                                                                  1,304 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    790 mL
   Urine:
                                                                  2,320 mL
                                                                    790 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    -72 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 248 (248 - 250) mL
   PS : 18 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 16.5 cmH2O/mL
   SpO2: 100%
   ABG: ///13/
   Ve: 6.4 L/min
                                                                [**2107-1-10**]
                                                                    05:36a
   _______________________________________________________________________
                                     pH
                                    7.38
                                    pCO2
                                     24
                                     pO2
                                     73
                                    HCO3
                                     15
                                   BaseXS
                                     -8
   Type:[**Last Name (un) **]
   Lactate:1.7
   Physical Examination
   Patient increasingly alert and aware today.  Eye movements present.
   Abdomen softer today than on previous exams.
   Labs / Radiology
   116 K/uL
   9.0 g/dL
   114 mg/dL
   2.5 mg/dL
   13 mEq/L
   4.9 mEq/L
   35 mg/dL
   127 mEq/L
   153 mEq/L
   26.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2107-1-6**]  08:11 PM
                             [**2107-1-7**]  03:31 AM
                             [**2107-1-7**]  01:04 PM
                             [**2107-1-7**]  08:59 PM
                             [**2107-1-8**]  05:02 AM
                             [**2107-1-8**]  01:59 PM
                             [**2107-1-9**]  03:59 AM
                             [**2107-1-9**]  11:48 AM
                             [**2107-1-9**]  06:30 PM
                             [**2107-1-10**]  02:19 AM
   WBC
   7.2
   6.6
   5.3
   4.9
   4.0
   8.8
   Hct
   23.6
   26.6
   25.7
   26.1
   24.6
   26.9
   Plt
   36
   34
   33
   27
   41
   116
   Cr
   2.4
   2.6
   2.7
   2.6
   2.5
   2.4
   2.5
   2.5
   2.5
   Glucose
   127
   186
   84
   118
   64
   198
   94
   114
   124
   114
   Other labs: PT / PTT / INR:13.6/27.8/1.2, CK / CKMB /
   Troponin-T:2699/7/0.06, ALT / AST:112/131, Alk Phos / T Bili:615/0.9,
   Amylase / Lipase:/10, Differential-Neuts:62.0 %, Band:3.0 %, Lymph:20.0
   %, Mono:7.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:1.8 g/dL, LDH:453 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2
   mg/dL
   [1][image003.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [2][**2107-1-10**] 02:19AM
                                   114*[1]
                                     35*
                                    2.5*
                                   153*[2]
                                     4.9
                                   127*[2]
                                   13*[2]
                                     18
   Source: Line-CVL
   [3][**2107-1-9**] 06:30PM
                                   124*[1]
                                     33*
                                    2.5*
                                   151*[3]
                                    5.9*
                                   126*[4]
                                   13*[4]
                                     18
   Source: Line-CVL
   [4][**2107-1-9**] 03:59AM
                                    94[1]
                                     31*
                                    2.5*
                                    150*
                                    3.0*
                                    120*
                                   15*[5]
                                     18
   [**Last Name (un) **] ADDED [**2107-1-9**] @1519
   [5][**2107-1-8**] 01:59PM
                                   198*[1]
                                     28*
                                    2.4*
                                     144
                                     3.5
                                    117*
                                   13*[6]
                                     18
   Source: Line-CVL
   [6][**2107-1-8**] 05:02AM
                                   64*[1]
                                     28*
                                    2.5*
                                     144
                                     4.0
                                    117*
                                     15*
                                     16
   [7][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [8][**2107-1-10**] 02:19AM
                                    112*
                                    131*
                                    453*
                                  2699*[1]
                                    615*
   0.9
   Source: Line-CVL
   [9][**2107-1-9**] 03:59AM
                                     98*
                                    148*
                                    448*
                                  5212*[2]
                                    301*
   1.8*
   [**Last Name (un) **] ADDED [**2107-1-9**] @1519
   [10][**2107-1-8**] 01:59PM
                                     90*
                                    176*
                                    521*
                                  8391*[1]
                                    226*
   2.3*
   Source: Line-CVL
   [11][**2107-1-8**] 05:02AM
                                     89*
                                    198*
                                    589*
                                  [**Numeric Identifier 13100**]*[1]
                                    223*
   2.4*
                                    2.0*
                                     0.4
   [12][image004.gif]   OTHER ENDOCRINE
                                   Cortsol
   [13][**2107-1-10**] 07:00AM
                                     PND
   Source: Line-left IJ
   [14][**2107-1-10**] 05:27AM
                                  20.5*[1]
                                                                [**2107-1-9**]
                                                                    11:03a
   _______________________________________________________________________
   Source: Catheter
   Other Urine Chemistry:
   Creat:8
   Na:46
   Osmolal:167
   [15][image003.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Smr
                                   Plt Ct
                                   INR(PT)
                                    [**Name (NI) 13073**]
   [16][**2107-1-10**] 02:19AM
   NORMAL
                                    116*#
   Source: Line-CVL
   [17][**2107-1-10**] 02:19AM
                                    13.6*
                                    27.8
   1.2*
   Source: Line-CVL
   [18][**2107-1-9**] 03:59AM
   41*#[1]
   Source: Line-cvl; Random
   [19][**2107-1-9**] 03:59AM
                                    15.8*
                                    30.3
   1.4*
   Source: Line-cvl; Random
   [20][**2107-1-8**] 01:59PM
                                    16.9*
                                    30.5
   1.5*
   Source: Line-CVL
   Imaging: Final Report
   CHEST RADIOGRAPH
   INDICATION: Evaluation for interval placement.
   COMPARISON: [**1-6**].
   FINDINGS: As compared to the previous radiograph, a left central venous
   access line has been inserted. The course of the line is unremarkable.
   The tip of the line projects over the lower SVC.
   The ventilation of the right lung has overall slightly improved.
   Otherwise,
   the radiograph is unchanged. The pre-existing retrocardiac opacities,
   including some air bronchograms, are better visible than on the
   previous
   examination.
   DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 13008**]
   Approved: SAT [**2107-1-8**] 8:39 AM
   Final Report
   PORTABLE CHEST, [**2107-1-8**], AT 2243.
   COMPARISON: [**2107-1-8**], AT 5:40.
   FINDINGS: Nasogastric tube has been placed, terminating within the
   stomach.
   Otherwise, no relevant change in the appearance of the chest since the
   recent radiograph.
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) 13131**]
   Approved: SUN [**2107-1-9**] 8:51 AM
   Microbiology: Labs - Microbiology  (since [**2105-7-11**])
   [**2107-1-10**]  BLOOD CULTURE  Pending
   [**2107-1-9**]  STOOL  Final
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2107-1-10**]): Feces negative
   for C.difficile toxin A & B by EIA.
   [**2107-1-9**] 11:03 am SPUTUM     Site: ENDOTRACHEAL GRAM STAIN (Final
   [**2107-1-9**]): >25 PMNs and <10 epithelial cells/100X field. 2+   (1-5 per
   1000X FIELD):   BUDDING YEAST.
   Respiratory culture preliminary.
   [**2107-1-7**]  BLOOD CULTURE  Pending
   [**2107-1-7**]  BLOOD CULTURE  Pending
   [**2107-1-6**]  URINE  Final
   Assessment and Plan
 SHOCK, OTHER - still on broad spectrum antibiotics, also severely
   hypovolemic [**1-4**] osmotic diuresis. Exact cause of hypotension uncertain.
   - continue phenylephrine to maintain MAP>65
   - continue antibiotics (vanc, cipro, pipercillin/tazobactam=zosyn)
   considering respiratory findings.  Will d/c antibiotics tomorrow if
   cultures remain negative because pt will have completed 8 day course
   for hospital acquired pneumonia.
   - Abx course clarified:
   Day 1 vancomycin [**1-4**] 1gm IV Q12H later changed to 0.75gm IV Q12H,
   Day 1 ciprofloxacin [**1-4**] 400mg IV Q12, then changed to Q24
   Day 1 piperacillin-tazobactam [**1-4**] 2.25 g IV Q6H
   Day 1 fluconazole [**1-5**] 200 mg IV Q24H
   - continue fluconazole
   - check vanc trough
   - TTEcho to check for possible vegetations
   - f/u cultures
 RESPIRATORY FAILURE, ACUTE
 Patient tolerated about 6 hourse of
   pressure support on [**6-7**] and 3 hours on [**6-8**].
   - Pressure support trial today. Try P=20, PEEP=5.
   - Wean ventilator as tolerated.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - Suspect ATN from
   poor perfusion. Urine output strong.
   - Continue monitoring I/O and daily lytes
   - Continue maintaining MAP>65
 ACIDOSIS, MIXED
 pt has chronic resp acidosis (from hypoventilation)
   and now anion gap metabolic acidosis (from DKA, Uremia, Lactic
   acidosis). Bicarb now 15 (low).  To increase this and counteract
   acidosis, plan to cause contraction alkalosis (i.e. lasix -> renal
   perfusion down -> RAA system up -> [**Male First Name (un) **] causes K+ and H+ to be lost).
   Without so much acid on board, patient
s ventilation needs will be
   decreased and weaning from ventilator will be easier.
   - lasix 10mg IV.
   - continue [**Hospital1 7**] lytes and VBGs.
 HYPERNATREMIA (HIGH SODIUM)
 Sodium rose today to 153 despite free
   H20 via OG tube.
   - increase free H2O flushes to 150ml Q6H.
 HYPERGLYCEMIA
 resolving. Pt off gtt given stable FS.  Now on
   insulin sliding scale plus fixed dose 15u lantus. Dextrose infusions
   for hypoglycemia.
   - continue to monitor glucose.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 abdominal
   distention/firmness appears to be resolving.  Belly noticably softer
   today. CK resolving.
   - continue to monitor abd exams and daily CK.
 THROMBOCYTOPENIA, ACUTE- DIC labs negative, smear normal. Platelets
   rising to 116 today
   - continue to monitor.
   ICU Care
   Nutrition: Continue tube feeds (Boost glucose control).
   Boost Glucose Control (Full) - [**2107-1-9**] 10:35 PM 20 mL/hour
   Glycemic Control:  See above
   Lines: 20 Gauge - [**2107-1-2**] 11:31 PM, Left IJ Multi Lumen - [**2107-1-3**]
   02:00 PM
   Prophylaxis:
   DVT: Ready to restart Heparin 2500U [**Hospital1 7**] now that Plt >50.
   Stress ulcer: Protonix
   Comments: Docusate, ondansetron PRN
   Communication:  parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   13:01
References
   1. javascript:command('LCBA','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_28%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_29%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_31%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_32%22);
   7. javascript:command('LCBD','expand')
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_54%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_55%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_56%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_57%22);
  12. javascript:command('LCBW','expand')
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_108%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_109%22);
  15. javascript:command('LHBI','expand')
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);

2107-01-12 06:58:00 Physician Resident Progress Note
Chief Complaint: 25M with cerebral palsy/microcephaly who presented in
   DKA/HHS who aspirated and developed respiratory failure, renal failure,
   metabolic acidemia, and shock.  Now intubated.
   24 Hour Events:
   [**1-11**]
   - Started on lasix gtt and valium reduced
   - urinated well overnight
   - Per ID recs: d/c'd zosyn/cipro (completed course)
   - repeat CT sinus/CT chest (did not happen yesterday)
   - Started micafungin with ID approval
   - Patient given Tylenol overnight for temp and pain control
   - Patient went about 7 hours on pressure support yesterday
   - off pressors since 2pm yesterday
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-1-11**] 09:00 AM
   Micafungin - [**2107-1-11**] 12:00 PM
   Ciprofloxacin - [**2107-1-11**] 12:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-11**] 01:45 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-11**] 08:00 AM
   Furosemide (Lasix) - [**2107-1-11**] 04:35 PM
   Heparin Sodium (Prophylaxis) - [**2107-1-11**] 08:54 PM
   Other medications:
   Flowsheet Data as of  [**2107-1-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 121 (96 - 125) bpm
   BP: 127/68(80) {96/44(55) - 127/79(88)} mmHg
   RR: 24 (22 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.3 kg (admission): 37 kg
   Height: 56 Inch
   Total In:
                                                                  3,096 mL
                                                                    650 mL
   PO:
   TF:
                                                                    866 mL
                                                                    193 mL
   IVF:
                                                                  1,210 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                  1,690 mL
   Urine:
                                                                  3,150 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -54 mL
                                                                 -1,039 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 241 (241 - 252) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 23 cmH2O
   Plateau: 23 cmH2O
   Compliance: 15.6 cmH2O/mL
   SpO2: 100%
   ABG: ///15/
   Ve: 6.4 L/min
                                                                [**2107-1-11**]
                                                                    12:45p
   _______________________________________________________________________
                                     pH
                                    7.35
                                    pCO2
                                     28
                                     pO2
                                     66
                                    HCO3
                                     16
                                   BaseXS
                                     -8
   Type:[**Last Name (un) **]; Temp:36.9
   Na:151
   K:3.5
   Cl:125
   Glu:89
   freeCa:1.09
   Lactate:2.2
   Comments:
   Na: Verified
                                                                [**2107-1-11**]
                                                                    12:14p
   _______________________________________________________________________
   Source: Catheter
   Color
   Straw
   Appear
   Clear
   SpecGr
   1.005
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Lg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   7
   WBC
   0
   Bact
   Few
   Yeast
   None
   Epi
   0
   Other Urine Counts
   Mucous: Rare
   Physical Examination
   No changes
   Labs / Radiology
   304
   8.1
   111
   2.4 mg/dL
   18 mEq/L
   4.2
   41
   120 mEq/L
   154 mEq/L
   25.0
   15.2
        [image002.jpg]
                             [**2107-1-8**]  05:02 AM
                             [**2107-1-8**]  01:59 PM
                             [**2107-1-9**]  03:59 AM
                             [**2107-1-9**]  11:48 AM
                             [**2107-1-9**]  06:30 PM
                             [**2107-1-10**]  02:19 AM
                             [**2107-1-10**]  03:06 PM
                             [**2107-1-11**]  05:30 AM
                             [**2107-1-11**]  12:45 PM
                             [**2107-1-11**]  05:20 PM
   WBC
   4.9
   4.0
   8.8
   14.6
   Hct
   26.1
   24.6
   26.9
   26.5
   Plt
   27
   41
   116
   205
   Cr
   2.5
   2.4
   2.5
   2.5
   2.5
   2.5
   2.5
   2.4
   Glucose
   64
   198
   94
   114
   124
   114
   117
   91
   89
   118
   Source: [**Name (NI) 13185**]
   PT: 12.4
   PTT: 25.0
   INR: 1.0
   CK / CKMB / Troponin-T:790/7/0.06, ALT / AST:112/131, Alk Phos / T
   Bili:615/0.9, Amylase / Lipase:/10, Differential-Neuts:62.0 %, Band:3.0
   %, Lymph:20.0 %, Mono:7.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:1.8 g/dL, LDH:453 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: Final Report
   REASON FOR EXAMINATION: Respiratory failure, intubation.
   Portable AP chest radiograph was compared to [**2107-1-8**].
    There is no significant change in the right mid and lower lung opacity
   involving almost the entire area of that lung with some sparing of the
   right
   upper lobe. The left lung is essentially clear. The left retrocardiac
   opacity is unchanged as well as there is no change in the
   cardiomediastinal
   contour and orthopedic hardware. The ET tube tip cannot be seen. The NG
   tube
   tip is in the stomach.
   DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 8955**]
   Approved: TUE [**2107-1-11**] 2:10 PM
   Microbiology: Labs - Microbiology  (since [**2105-7-13**])
   [**2107-1-11**]  SPUTUM  Preliminary  = 1+ budding yeast
   [**2107-1-11**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)  Pending
   [**2107-1-11**]  BLOOD CULTURE  Pending
   [**2107-1-11**]  URINE  Pending
   Assessment and Plan
 SHOCK, OTHER - Exact cause of hypotension still uncertain. Cultures
   remain negative.  TTE was negative. Temperature at 99F. Pt is tachy.
   Stopping antibiotics will help with I/Os. Pt off pressors currently.
   - followup yesterday
s BCx, urine cx, sputum cx
   - repeat blood, urine, sputum cultures today (given temp of 99F, tachy,
   and WBC rise)
   - followup read on today
s chest and sinus CT
   - appreciate ID consult on patients infection possibilities
   - discontinue antibiotics (vanc, cipro, zosyn) per ID suggestions
   - continue micafungin
 RESPIRATORY FAILURE, ACUTE
 Plan for slow wean as we remove volume
   and HCO3 to allow metabolic compensation for chronic respiratory
   hypercarbia. Patient completing daily pressure support trials
   (yesterday about 7 hours)
   - pressure support trial today. Try P=16 (wean by 2cm H2O per hour),
   PEEP=5.
   - continue diuresis (as below)
   - decrease patient
s home dose of valium to 4mg [**Hospital1 7**] to promote
   ventilation (decreased to 6mg [**Hospital1 7**] yesterday).
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - Urine output
   strong.
   - continue monitoring I/O and daily lytes
   - continue maintaining MAP>65
 ACIDOSIS, MIXED
 pt has chronic resp acidosis (from restriction) and
   now anion gap metabolic acidosis (from DKA, Uremia, Lactic acidosis).
   Bicarb now .  To increase this and counteract acidosis, plan to cause
   contraction alkalosis (i.e. lasix -> renal perfusion down -> RAA system
   up -> [**Male First Name (un) **] causes K+ and H+ to be lost).  Without so much acid on
   board, patient
s ventilation needs will be decreased and weaning from
   ventilator will be easier.  HCO3 needs to rise to about 30 in order to
   extubated.
   - continue lasix drip @3mg/hr.
   - continue daily lytes and VBGs.
 HYPERNATREMIA (HIGH SODIUM)
 sodium continues today at 154,
   indicating loss of free H20 from intubation.
   - increase free H2O flushes to 200ml Q4H
   - limit NaCl in medications
 HYPERGLYCEMIA
 resolving. Pt off gtt given stable FS.  Now on
   insulin sliding scale plus fixed dose 15u lantus. Dextrose infusions
   for hypoglycemia.
   - continue to monitor glucose
   - appreciate [**Last Name (un) 303**] recs
 RHABDO
 abdomen continues to be soft like yesterday. Resolving
   - continue to monitor abd exams and daily CK.
   ICU Care
   Nutrition: Boost Glucose Control (Full) - [**2107-1-12**] 04:40 AM 40
   mL/hour. Appreciate nutrition recs.
   Glycemic Control: as above
   Lines: 20 Gauge - [**2107-1-2**] 11:31 PM, Multi Lumen - [**2107-1-3**] 02:00
   PM
   Prophylaxis:
   DVT: TEDs, SC Heparin
   GI: protonix
   Communication:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   13:33

2107-01-13 07:07:00 Physician Resident Progress Note
Chief Complaint: 25M with cerebral palsy admitted for DKA/HHS.  Pt
   aspirated in unit and developed respiratory failure, renal failure, and
   apparent septic shock.  Now intubated.
   24 Hour Events:
 BLOOD CULTURED - At [**2107-1-12**] 12:09 PM
   from CVL
 URINE CULTURE - At [**2107-1-12**] 12:10 PM
 SPUTUM CULTURE - At [**2107-1-12**] 02:00 PM
 BLOOD CULTURED - At [**2107-1-12**] 02:59 PM
   from CVL
   [**2107-1-12**]:
   - Weaned PSV to [**9-6**] did well for several hours, then got more
   tachypneic, increased work of breathing now back on AC
   - Increased free water flush to 200 Q4, sodium decreased to 152
   - ID wanted to repeat C diff and Beta Glucan
   - Pt had been tachcyardic and spiked a fever to 100.6, DC'd lasix gtt,
   obtained blood, urine, and stool cx.
   - father wants to know if we should check for lyme disease
   - high residuals on tube feeds of 200ml.  Tube feeds stopped this
   morning and restarted at lower rate.
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-1-11**] 09:00 AM
   Ciprofloxacin - [**2107-1-11**] 12:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-11**] 01:45 PM
   Micafungin - [**2107-1-12**] 01:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-12**] 08:00 PM
   Midazolam (Versed) - [**2107-1-13**] 01:00 AM
   Fentanyl - [**2107-1-13**] 01:00 AM
   Other medications:
   Flowsheet Data as of  [**2107-1-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37
C (98.6
   HR: 108 (96 - 128) bpm
   BP: 103/54(66) {100/43(57) - 127/79(86)} mmHg
   RR: 25 (21 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.5 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  2,780 mL
                                                                    877 mL
   PO:
             TF:
                                                                    885 mL
                                                                    278 mL
   IVF:
                                                                    814 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  4,320 mL
                                                                    435 mL
   Urine:
                                                                  4,320 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,540 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 270 (270 - 338) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 100%
   ABG: ///20/
   Ve: 7.9 L/min
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
                                   Comment
   [2][**2107-1-13**] 03:59AM
                                     [**Last Name (un) **]
                                   38.1[1]
   48*[2]
                                     39
                                    7.35
                                     22
                                     -3
   [3][**2107-1-13**] 01:22AM
                                     [**Last Name (un) **]
                                    38.1
   42*[2]
                                     40
                                    7.34*
                                     23
                                     -3
   Physical Examination
 unchanged today.
   Labs / Radiology
   380 K/uL
   7.5 g/dL
   142 mg/dL
   2.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   43 mg/dL
   117 mEq/L
   152 mEq/L
   22.7 %
   19.1 K/uL
        [image003.jpg]
                             [**2107-1-9**]  11:48 AM
                             [**2107-1-9**]  06:30 PM
                             [**2107-1-10**]  02:19 AM
                             [**2107-1-10**]  03:06 PM
                             [**2107-1-11**]  05:30 AM
                             [**2107-1-11**]  12:45 PM
                             [**2107-1-11**]  05:20 PM
                             [**2107-1-12**]  06:17 AM
                             [**2107-1-12**]  02:09 PM
                             [**2107-1-13**]  03:39 AM
   WBC
   8.8
   14.6
   15.2
   19.1
   Hct
   26.9
   26.5
   25.0
   22.7
   Plt
   116
   205
   304
   380
   Cr
   2.5
   2.5
   2.5
   2.5
   2.4
   2.4
   2.4
   2.1
   Glucose
   114
   124
   114
   117
   91
   89
   118
   111
   127
   142
   Other labs: PT / PTT / INR:12.4/25.0/1.0, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:74/36, Alk Phos / T Bili:369/0.4,
   Amylase / Lipase:/10, Differential-Neuts:62.0 %, Band:3.0 %, Lymph:20.0
   %, Mono:7.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:359 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.9
   mg/dL
   [4][image004.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [5][**2107-1-13**] 03:39AM
                                    19.1*
                                    2.53*
                                    7.5*
                                    22.7*
                                     90
                                    29.4
                                    32.9
                                    18.6*
                                     380
   Source: Line-CVL
   [6][**2107-1-12**] 06:17AM
                                    15.2*
                                    2.76*
                                    8.1*
                                    25.0*
                                     91
                                    29.3
                                    32.4
                                    18.6*
                                   304[1]
   Source: Line-cvl
   [7][**2107-1-11**] 05:30AM
                                   14.6*#
                                    2.94*
                                    8.9*
                                    26.5*
                                     90
                                    30.1
                                    33.4
                                    18.5*
                                   205#[2]
   Source: Line-cvl
   [8][**2107-1-10**] 02:19AM
                                   8.8#[3]
                                    3.03*
                                    9.0*
                                    26.9*
                                     89
                                    29.6
                                    33.3
                                    18.8*
                                    116*#
   [9][image004.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Smr
                                   Plt Ct
                                   INR(PT)
                                    [**Name (NI) 13073**]
   [10][**2107-1-13**] 03:39AM
   380
   Source: Line-CVL
   [11][**2107-1-12**] 06:17AM
   NORMAL
                                   304[1]
   Source: Line-cvl
   [12][**2107-1-12**] 06:17AM
                                    12.4
                                    25.0
   1.0
   [13][image004.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [14][**2107-1-13**] 03:39AM
                                   142*[1]
                                     43*
                                    2.1*
                                   152*[2]
                                     3.6
                                    117*
                                     20*
                                     19
   ADDED VANCO @ RANDOM ITS NOT VANCO TROUGH...
   [15][**2107-1-12**] 02:09PM
                                   127*[1]
                                     41*
                                    2.4*
                                   152*[3]
                                     3.3
                                    119*
                                     19*
                                     17
   Source: Line-CVL
   [16][**2107-1-12**] 06:17AM
                                   111*[1]
                                     41*
                                    2.4*
                                   154*[4]
                                     4.2
                                    120*
                                     18*
                                     20
   Source: Line-cvl; VANCOMYCIN @ TROUGH 6-8AM
   [17][**2107-1-11**] 05:20PM
                                   118*[1]
                                     39*
                                    2.4*
                                    150*
                                     3.3
                                   121*[5]
                                     15*
                                     17
   [18][image004.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [19][**2107-1-13**] 03:39AM
                                     74*
                                     36
                                    359*
                                   291[1]
                                    369*
   0.4
   ADDED VANCO @ RANDOM ITS NOT VANCO TROUGH...
   [20][**2107-1-12**] 06:17AM
                                     88*
                                     49*
                                    427*
                                   297[1]
                                    459*
   0.5
   Source: Line-cvl; VANCOMYCIN @ TROUGH 6-8AM
   [21][**2107-1-11**] 05:30AM
   790*[1]
   Source: Line-cvl
   [22][**2107-1-10**] 02:19AM
                                    112*
                                    131*
                                    453*
                                  2699*[1]
                                    615*
   0.9
   [23][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
                                   Comment
   [24][**2107-1-13**] 03:59AM
                                     [**Last Name (un) **]
                                   38.1[1]
   48*[2]
                                     39
                                    7.35
                                     22
                                     -3
   [25][**2107-1-13**] 01:22AM
                                     [**Last Name (un) **]
                                    38.1
   42*[2]
                                     40
                                    7.34*
                                     23
                                     -3
   Imaging: CXR [**1-13**]
   CXR [**1-12**]
   Final Report
   SINGLE AP PORTABLE VIEW OF THE CHEST.
   REASON FOR EXAM: Aspiration pneumonia and respiratory failure. Patient
   with a history of cerebral palsy.
   Comparison is made with the prior study, [**2107-1-11**].
   Extense right lung opacities have improved. Left perihilar opacities
   have
   improved. All those are consistent with patient's history of
   aspiration.
   Small left pleural effusion has improved. Cardiac size is normal. Left
   lower lobe retrocardiac opacity has improved. The apices of the lungs
   cannot be evaluated. The chin obscures them. ET tube cannot be
   assessed. Left central
   catheter tip is at the cavoatrial junction or in the proximal right
   atrium.
   NG tube tip is in the stomach.
   A spinal hardware is present.
   DR. [**First Name (STitle) 13204**] [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 13205**]
   Approved: WED [**2107-1-12**] 1:09 PM
   Ct sinus [**1-12**]
   Preliminary Report
   Preliminary reports are not available for viewing.
   DR. [**First Name (STitle) 13206**] HO
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **]. [**Last Name (NamePattern1) 13207**]
   Ct chest/abdomen/pelvis [**1-12**]
   IMPRESSION:
   1. Improved aeration with decreased but persistent areas of ill-defined
   consolidation and peribronchovascular ground glass and nodular
   opacities
   within the right lung, compatible with aspiration pneumonia. Left lung
   base
   consolidation is significantly improved. An area of ground-glass
   opacity is
   present in the left upper lobe. Bilateral small pleural effusions with
   compressive atelectasis persist, with significant interval improvement
   on the
   left.
   2. Simple fluid within the abdomen and pelvis likely result from large
   volume
   fluid resuscitation in the setting of hypovolemia. No loculated fluid
   collection or abscess formation within the abdomen and pelvis.
   3. Unchanged focal fatty infiltration within right lobe of liver.
   4. Limited assessment of intestines without oral or intravenous
   contrast. No dilated loops.
   The study and the report were reviewed by the staff radiologist.
   DR. [**First Name8 (NamePattern2) 13208**] [**Name (STitle) **]
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) 13209**]
   Approved: WED [**2107-1-12**] 11:40 PM
   Microbiology: [**2107-1-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2107-1-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-1-13**]  STOOL FECAL CULTURE-FINAL; CAMPYLOBACTER CULTURE-FINAL;
   FECAL CULTURE - R/O VIBRIO-FINAL; FECAL CULTURE - R/O
   YERSINIA-PRELIMINARY; FECAL CULTURE - R/O E.COLI 0157:H7-FINAL;
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-PRELIMINARY INPATIENT
   [**2107-1-13**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2107-1-12**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2107-1-12**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2107-1-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-1-12**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY;
   Immunoflourescent test for Pneumocystis jirovecii (carinii)-PRELIMINARY
   INPATIENT
   [**2107-1-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-1-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and plan
 FEVER AND TACHYCARDIA - Temperature at 99F and pt is tachy.
   Infection is a likely explanation. However, ultures remain negative and
   CT scans show no obvious source of infection aside from potentially
   lungs.  Left IJ line also suspected. Pt back on andtibiotics including
   micafungin. Pt off pressors currently.  Other potential causes of
   tachycardia include pain/agitation.
   Pt tachycardic with fever up to 100.6 overnight.
   - restart vancomycin to level and continue micafungin
   - followup all blood, urine, sputum
   - repeat micafungin today
   - followup read on sinus CT
   - restart patient
s home dose of valium to treat possible agitation.
 RESPIRATORY FAILURE, ACUTE
 Plan for slow wean as we remove volume
   and HCO3 to allow metabolic compensation for chronic respiratory
   hypercarbia. Patient completing daily pressure support trials
   (yesterday about 7 hours)
   - pressure support trial today. Try P=16 (wean by 2cm H2O per hour),
   PEEP=5.
   - continue gentle diuresis (as below)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - Urine output strong
   and creatinine resolving
   - continue monitoring I/O and daily lytes
   - continue maintaining MAP>65
 ACIDOSIS, MIXED
 pt has chronic resp acidosis (from restriction) and
   now anion gap metabolic acidosis (from DKA, Uremia, Lactic acidosis).
   Bicarb now 20.  To increase this and counteract acidosis, plan to cause
   contraction. HCO3 needs to rise to about 30 in order to extubated.
   - continue lasix drip @1 mg/hr.
   - continue [**Hospital1 7**] lytes and VBGs.
 HYPERNATREMIA (HIGH SODIUM)
 sodium continues today at 152 down from
   154 yesterday, indicating loss of free H20 from intubation. Pharm
   contact[**Name (NI) **] to limit [**Name (NI) **] exposure.
   - continue free H2O flushes to 200ml Q4H
   - follow Na
 HYPERGLYCEMIA
 resolving. Pt off gtt given stable FS.  Now on
   insulin sliding scale plus fixed dose 15u lantus. Dextrose infusions
   for hypoglycemia.
   - continue to monitor glucose
   - appreciate [**Last Name (un) 303**] recs
 RHABDO
 abdomen continues to be soft like yesterday. Resolving with
   CK 291 today.
   - continue to monitor
 ANEMIA
 HCT down to 22.7 today
   - check haptoglobin today
   - continue to monitor HCT
   ICU Care
   Nutrition: Boost Glucose Control (Full) - [**2107-1-13**] 02:03 AM 40
   mL/hour
   Glycemic Control:  Regular insulin sliding scale, 15 lantus at night
   Lines: Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   Communication:  parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   14:44
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);
   4. javascript:command('LHBC','expand')
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   9. javascript:command('LHBI','expand')
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  13. javascript:command('LCBA','expand')
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
  18. javascript:command('LCBD','expand')
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
  23. javascript:command('LGBC','expand')
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
  25. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);

2107-01-14 07:06:00 Physician Resident Progress Note
Chief Complaint: 25M with cerebral palsy presented in DKA/HHS.
   Subsequently aspirated and developed shock, respiratory failure, and
   renal failure.  Now with fever and tachycardia.  Now intubated.  Off
   pressors.
   24 Hour Events:
 URINE CULTURE - At [**2107-1-13**] 06:00 PM
 SPUTUM CULTURE - At [**2107-1-13**] 08:00 PM
 FEVER - 101.2
F - [**2107-1-13**] 05:25 PM
   [**2107-1-13**]
   - Sent Beta Glucan again.
   - No new culture data as of 18:35.
   - Spiked fever to 101.2. Added back cefepime and flagyl as per ID recs
   (with vanco). Tylenol dose increased to 650mg x 1 via NG tube.
   - Haptoglobin WNL. Lipase WNL.
   - Nursing unable to get peripheral lines.
   - MDs unable to get central lines despite an diligent attempt.
   - Home dose of valium restared.
   - CT sinus - increased opacification of mastoid air cells. ET and NG
   tubes in place.
   - No new [**Last Name (un) 303**] recs.
   - In for morning vanc level.
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-1-11**] 09:00 AM
   Ciprofloxacin - [**2107-1-11**] 12:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-11**] 01:45 PM
   Micafungin - [**2107-1-13**] 11:37 AM
   Vancomycin - [**2107-1-13**] 12:43 PM
   Cefipime - [**2107-1-13**] 06:00 PM
   Metronidazole - [**2107-1-14**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-13**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-13**] 08:19 AM
   Fentanyl - [**2107-1-14**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-14**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.1
   HR: 104 (99 - 134) bpm
   BP: 115/73(82) {94/45(56) - 128/74(86)} mmHg
   RR: 23 (13 - 48) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.5 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  2,687 mL
                                                                    982 mL
   PO:
             TF:
                                                                    845 mL
                                                                    271 mL
   IVF:
                                                                    721 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    545 mL
   Urine:
                                                                  2,375 mL
                                                                    545 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    112 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 254 (201 - 374) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 183
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 26.4 cmH2O/mL
   SpO2: 95%
   ABG: ///22/
   Ve: 6.3 L/min
   Physical Examination
   No major interval change.  Patient
s abdomen still softer than initial
   days after admission.  Fungal colonization present in groins
   bilaterally.  No erythema or induration at site of previously removed
   IO device on left leg.
   Labs / Radiology
   384 K/uL
   8.1 g/dL
   110 mg/dL
   2.0 mg/dL
   22 mEq/L
   2.9 mEq/L
   43 mg/dL
   113 mEq/L
   150 mEq/L
   24.4 %
   12.5 K/uL
        [image002.jpg]
                             [**2107-1-10**]  02:19 AM
                             [**2107-1-10**]  03:06 PM
                             [**2107-1-11**]  05:30 AM
                             [**2107-1-11**]  12:45 PM
                             [**2107-1-11**]  05:20 PM
                             [**2107-1-12**]  06:17 AM
                             [**2107-1-12**]  02:09 PM
                             [**2107-1-13**]  03:39 AM
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
   WBC
   8.8
   14.6
   15.2
   19.1
   12.5
   Hct
   26.9
   26.5
   25.0
   22.7
   22.4
   24.4
   Plt
   116
   205
   304
   380
   384
   Cr
   2.5
   2.5
   2.5
   2.4
   2.4
   2.4
   2.1
   2.1
   2.0
   Glucose
   114
   117
   91
   89
   118
   111
   127
   142
   155
   110
   Other labs: PT / PTT / INR:12.4/25.0/1.0, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:74/36, Alk Phos / T Bili:369/0.4,
   Amylase / Lipase:/33, Differential-Neuts:62.0 %, Band:3.0 %, Lymph:20.0
   %, Mono:7.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:359 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.0
   mg/dL
   [1][image003.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [2][**2107-1-14**] 04:15AM
                                    12.5*
                                    2.76*
                                    8.1*
                                    24.4*
                                     89
                                    29.2
                                    33.0
                                    18.5*
                                     384
   Source: Line-cvl
   [3][**2107-1-13**] 02:38PM
   22.4*
   Source: Line-TL
   [4][**2107-1-13**] 03:39AM
                                    19.1*
                                    2.53*
                                    7.5*
                                    22.7*
                                     90
                                    29.4
                                    32.9
                                    18.6*
                                     380
   Source: Line-CVL
   [5][**2107-1-12**] 06:17AM
                                    15.2*
                                    2.76*
                                    8.1*
                                    25.0*
                                     91
                                    29.3
                                    32.4
                                    18.6*
                                   304[1]
   Source: Line-cvl
   [6][**2107-1-11**] 05:30AM
                                   14.6*#
                                    2.94*
                                    8.9*
                                    26.5*
                                     90
                                    30.1
                                    33.4
                                    18.5*
                                   205#[2]
   Hematology
   [7][image004.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [8][**2107-1-14**] 04:15AM
                                    12.5*
                                    2.76*
                                    8.1*
                                    24.4*
                                     89
                                    29.2
                                    33.0
                                    18.5*
                                     384
   Source: Line-cvl
   [9][image004.gif]   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
                                   Myelos
   [10][**2107-1-10**] 02:19AM
                                     62
                                      3
                                     20
                                      7
                                      4
                                      0
                                      0
                                     3*
                                     1*
   Source: Line-CVL
   [11][image004.gif]   RED CELL MORPHOLOGY
                                   Hypochr
                                   Anisocy
                                   Poiklo
                                   Macrocy
                                   Microcy
                                   Polychr
   [12][**2107-1-7**] 06:57AM
                                     1+
                                     1+
                                   NORMAL
                                     1+
                                     1+
                                   NORMAL
   Source: Line-CVL
   [13][image004.gif]   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   Plt Smr
                                   Plt Ct
                                   INR(PT)
                                    [**Name (NI) 13073**]
   [14][**2107-1-14**] 04:15AM
   384
   Source: Line-cvl
   [15][image004.gif]   BASIC COAGULATION (FIBRINOGEN, DD, TT, REPTILASE,
   BT)
                                   Fibrino
                                     FDP
   [16][**2107-1-7**] 06:57AM
                                    567*
   Source: Line-CVL
   Chemistry
   [17][image003.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [18][**2107-1-14**] 04:15AM
                                   110*[1]
                                     43*
                                    2.0*
                                    150*
                                   2.9*[2]
                                    113*
                                     22
                                     18
   Source: Line-cvl
   [19][**2107-1-13**] 02:38PM
                                   155*[1]
                                     41*
                                    2.1*
                                    150*
                                     4.3
                                    114*
                                     21*
                                     19
   Source: Line-TL
   [20][**2107-1-13**] 03:39AM
                                   142*[1]
                                     43*
                                    2.1*
                                   152*[3]
                                     3.6
                                    117*
                                     20*
                                     19
   ADDED VANCO @ RANDOM ITS NOT VANCO TROUGH...
   [21][**2107-1-12**] 02:09PM
                                   127*[1]
                                     41*
                                    2.4*
                                   152*[4]
                                     3.3
                                    119*
                                     19*
                                     17
   [22][image004.gif]   ANTIBIOTICS
                                    Vanco
   [23][**2107-1-14**] 06:28AM
                                     PND
   Imaging: Final Report
   CHEST RADIOGRAPH
   INDICATION: Microcephaly, evaluation for interval change.
   COMPARISON: [**2107-1-12**].
   FINDINGS: As compared to the previous radiograph, there is no relevant
   change. Unchanged appearance of the lung parenchyma, the cardiac
   silhouette and the pleura. Unchanged nasogastric tube. No newly
   occurred lesions.
   Unchanged position of the vertebral stabilization devices.
   DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 13008**]
   Approved: [**Doctor First Name **] [**2107-1-13**] 11:33 AM
   Microbiology: [**2107-1-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2107-1-13**] 8:18 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2107-1-13**]): >25 PMNs and <10 epithelial cells/100X
   field.
   2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   [**2107-1-13**]  URINE URINE CULTURE-PENDING
   [**2107-1-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Miscellaneous
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   [24][**2107-1-13**] 02:38PM
   PND
   [25][**2107-1-13**] 03:39AM
   PND
   Assessment and Plan
 FEVER, TACHYCARDIA, Leukocytosis - Temperature at 99.1F and pt is
   tachycardic in low 100s. WBC today is down to 12.5. Infection is a
   likely explanation. However, cultures remain negative and CT scans show
   no obvious source of infection aside from potentially lungs.  Left IJ
   line suspected source.  IO device site was soft, nonerythematous, and
   not indurated.
   Per ID recs, pt back on antibiotics
 vancomycin, flagyl, cefepime, and
   micafungin.  Other potential cause of tachycardia includes
   pain/agitation.
   - continue vanc, flagyl, cefepime, and micafungin
   - followup all blood, urine, sputum cultures
   - followup B Glucan result and aspergillus result
   - continue lasix at 3mg/hr
   - consult IR today for more access
   - order plain film and bone scan to check for osteomyelitis at IO
   device site (potential source of infection).  Also check orthopedic
   implants for signs of infection.
 RESPIRATORY FAILURE, ACUTE
 Plan for slow wean as we remove volume
   and HCO3 to allow metabolic compensation for chronic respiratory
   hypercarbia. Patient completing daily pressure support trials
   (yesterday about 10 hours)
   - pressure support trial today. Try P=16 (wean by 2cm H2O per hour),
   PEEP=5.
   - CXR today to check for pneumothorax
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - Urine output strong
   and creatinine resolving
 down to 2.0.
   - continue monitoring I/O and [**Hospital1 7**] lytes.
   - continue to hold diuresis because of fever
 ACIDOSIS, MIXED
 pt has chronic respiratory acidosis (from
   restriction) and now anion gap metabolic acidosis (from DKA, Uremia,
   Lactic acidosis). Bicarb now up to 22 after diuresis. HCO3 needs to
   rise to about 30 in order to extubated.
   However, patient with a net gain of 437ml since midnight now that
   diuresis has been stopped.
   - continue holding lasix drip.
   - continue [**Hospital1 7**] lytes and VBGs.
 HYPERNATREMIA (HIGH SODIUM)
 sodium continues today at 150 down from
   152 yesterday.
   - continue free H2O flushes to 200ml Q4H
   - follow Na
 HYPERGLYCEMIA
 resolving with glucose today at 110. Pt off gtt given
   stable FS.  Now on insulin sliding scale plus fixed dose 15u lantus.
   Dextrose infusions for hypoglycemia.
   - continue to monitor glucose
   - appreciate [**Last Name (un) 303**] recs
 ANEMIA
 HCT up slightly to 24.4 today.  Haptoglobin yesterday
   normal.
   - continue to monitor HCT
   ICU Care
   Nutrition: Boost Glucose Control (Full) - [**2107-1-14**] 03:24 AM 40
   mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: Parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   12:20
References
   1. javascript:command('LHBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   7. javascript:command('LHBC','expand')
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   9. javascript:command('LHBD','expand')
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
  11. javascript:command('LHBF','expand')
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
  13. javascript:command('LHBI','expand')
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  15. javascript:command('LHBJ','expand')
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
  17. javascript:command('LCBA','expand')
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
  22. javascript:command('LCBh','expand')
  23. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
  25. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);

2107-01-15 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2107-1-14**] 01:09 PM
   bone scan
 NUCLEAR MEDICINE - At [**2107-1-14**] 04:00 PM
   bone scan
 PICC LINE - START [**2107-1-14**] 04:09 PM
 MULTI LUMEN - STOP [**2107-1-14**] 09:44 PM
 PAN CULTURE - At [**2107-1-15**] 03:04 AM
 FEVER - 101.4
F - [**2107-1-15**] 02:00 AM
   - Continued on cefepime, vanc, micofungin, flagyl
   - Lasix gtt increased
   - Xray no periosteal reaction to suggest osteo
   - Bone scan unlikely infection
   - Picc line placed, central line d/c'd
   - [**Last Name (un) 303**] recs: Increased ISS by 1unit
   - Transfused 1upRBC for hct 20
   - Temp 101 -> pancultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-13**] 12:43 PM
   Cefipime - [**2107-1-14**] 06:32 PM
   Micafungin - [**2107-1-14**] 06:32 PM
   Metronidazole - [**2107-1-15**] 04:40 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-14**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-14**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-15**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 113 (103 - 127) bpm
   BP: 112/59(71) {98/47(60) - 124/72(117)} mmHg
   RR: 21 (18 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 34.4 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,347 mL
                                                                  1,049 mL
   PO:
             TF:
                                                                    773 mL
                                                                    258 mL
   IVF:
                                                                  1,245 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  3,765 mL
                                                                    885 mL
   Urine:
                                                                  3,765 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 248 (233 - 272) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 5.6 L/min
   Physical Examination
   RR, coarse bs, abdomen soft, nt, picc line in place c/d/I, site of
   former central line c/d/i
   Labs / Radiology
   495 K/uL
   6.6 g/dL
   176 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.2 mEq/L
   40 mg/dL
   108 mEq/L
   148 mEq/L
   20.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2107-1-11**]  05:30 AM
                             [**2107-1-11**]  12:45 PM
                             [**2107-1-11**]  05:20 PM
                             [**2107-1-12**]  06:17 AM
                             [**2107-1-12**]  02:09 PM
                             [**2107-1-13**]  03:39 AM
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
   WBC
   14.6
   15.2
   19.1
   12.5
   13.9
   Hct
   26.5
   25.0
   22.7
   22.4
   24.4
   20.2
   Plt
   [**Telephone/Fax (3) 13289**]84
   495
   Cr
   2.5
   2.4
   2.4
   2.4
   2.1
   2.1
   2.0
   1.8
   1.7
   Glucose
   91
   89
   118
   111
   127
   142
   155
   110
   113
   176
   Other labs: PT / PTT / INR:12.8/21.3/1.1, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:74/36, Alk Phos / T Bili:369/0.4,
   Amylase / Lipase:/33, Differential-Neuts:78.0 %, Band:1.0 %, Lymph:11.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:453 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 DIARRHEA
 SHOCK, OTHER
   Clinically appearing septic, on broad spectrum antibiotics, also
   severely hypovolemic [**1-4**] osmotic diuresis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Hypoventilatory, chronic CO2 retention and unable to ventilate in
   setting of metabolic acidosis
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Suspect ATN from poor perfusion
 ACIDOSIS, MIXED
   NG metabolic, hyperchloremic and respiratory, likely chronic, small AG
   metabolic acidosis (corrected for albumin AG=16)
 PNEUMONIA, ASPIRATION
   CXR and CT documented.
 HYPERGLYCEMIA
    Glucose balance requiring dextrose infusions.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   Abdominal distention
 THROMBOCYTOPENIA, ACUTE
   DIC labs negative, holding heparin SC
 HYPERNATREMIA (HIGH SODIUM)
   Normalizing
 RASH
 FEVER, TACHYCARDIA, Leukocytosis
 Patient remains febrile and pt
   tachycardic in low 100s. Leukocytosis worsened today.  Infection
   remains likely explanation.  Prelim sputum sig for GPC.
   Urine/stool/blood unrevealing. L IJ line removed and sent for cx.  Bone
   scan/Xray not evident for osteo or hardware infxn. Other potential
   etiology for fevers/tachy include thrombotic phenomenon, patient was
   w/o dvt ppx for some time given thrombocytopenia.  He has had unilat LE
   US that were neg for DVT, clinically on exam does not have assymetric
   swelling of legs, and is not hypoxic on vent.  Malignancy also
   possibility, though CT torso w/o evidence of lymphadenopathy/masses.
   - Continue vanc, flagyl, cefepime, and micafungin
   - Re-culture: blood, urine, sputum culture; Follow up culture data
   - Followup repeat B Glucan result and aspergillus
   - Followup cx from IJ line
   - Consider LENIs
 RESPIRATORY FAILURE, ACUTE
 Continue daily pressure support trials.
   Continue to treat for nosocomial infection.  Resolving acidosis on
   ABGs.  Sputum cx prelim sig for GPC.
 ANEMIA
 HCT down to 20. Ddx: frequent phlebotomies, less likely
   dilutional (has been running ~even w/ lasix), hemolysis (though hapto
   not low and t bili not elevated), or bleed (not evident on exam w/ soft
   belly and clear lines).
   - Transfuse 1u pRBC
   - Guaic stools
   - Post transfusion hct
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 Maintains good
   urine output and creatinine slowly downtrending.
   - continue monitoring I/O and [**Hospital1 7**] lytes.
   - continue diuresis
   - renally dose meds
 HYPERNATREMIA (HIGH SODIUM)
Improving with free water flushes.
   - continue free H2O flushes to 200ml Q4H
   - follow Na
 HYPERGLYCEMIA
 Currently on ISS w/ 15u lantus
   - continue to monitor glucose
   - appreciate [**Last Name (un) 303**] recs
   ICU Care
   Nutrition: Boost Glucose Control (Full) - [**2107-1-15**] 05:04 AM 40
   mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: Parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Given GNR in sputum, concern for resistant organism will d/c cefepime
   and start meropenem.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 13110**], MD
   on:[**2107-1-15**] 11:06 ------

2107-01-15 08:31:00 Physician Attending Progress Note
Chief Complaint: DKA, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   LLE film and bone scan not c/w osteo
   L IJ out, PICC placed
   FEVER - 101.4
F - [**2107-1-15**] 02:00 AM, pan-cultured
   Continued on lasix gtt
   Transfused 1 unit of blood for Hct of 20
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: non-verbal at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-13**] 12:43 PM
   Cefipime - [**2107-1-14**] 06:32 PM
   Micafungin - [**2107-1-14**] 06:32 PM
   Metronidazole - [**2107-1-15**] 04:40 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-15**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-15**] 08:05 AM
   Other medications:
   Lantus + ISS
   Lasix gtt
   Heparin SQ
   Baclofen
   Valium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2107-1-15**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 110 (103 - 127) bpm
   BP: 99/55(65) {95/47(57) - 124/72(117)} mmHg
   RR: 26 (18 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 34.4 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,347 mL
                                                                  1,399 mL
   PO:
             TF:
                                                                    773 mL
                                                                    341 mL
   IVF:
                                                                  1,245 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                  3,765 mL
                                                                  1,015 mL
   Urine:
                                                                  3,765 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                    384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 240 (233 - 248) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 94%
   ABG: ///22/
   Ve: 6 L/min
   Physical Examination
   Gen:
   Neck:
   Chest:
   CV:
   Abd:
   Extr:
   Labs / Radiology
   6.6 g/dL
   495 K/uL
   176 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.2 mEq/L
   40 mg/dL
   108 mEq/L
   148 mEq/L
   20.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2107-1-11**]  05:30 AM
                             [**2107-1-11**]  12:45 PM
                             [**2107-1-11**]  05:20 PM
                             [**2107-1-12**]  06:17 AM
                             [**2107-1-12**]  02:09 PM
                             [**2107-1-13**]  03:39 AM
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
   WBC
   14.6
   15.2
   19.1
   12.5
   13.9
   Hct
   26.5
   25.0
   22.7
   22.4
   24.4
   20.2
   Plt
   [**Telephone/Fax (3) 13289**]84
   495
   Cr
   2.5
   2.4
   2.4
   2.4
   2.1
   2.1
   2.0
   1.8
   1.7
   Glucose
   91
   89
   118
   111
   127
   142
   155
   110
   113
   176
   Other labs: PT / PTT / INR:12.8/21.3/1.1, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:74/36, Alk Phos / T Bili:369/0.4,
   Amylase / Lipase:/33, Differential-Neuts:78.0 %, Band:1.0 %, Lymph:11.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:453 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.4
   mg/dL
   Vanco level: 11.4
   Micro:
   Sputum cx:
   GRAM STAIN (Final [**2107-1-15**]): >25 PMNs and <10 epithelial cells/100X
   field. 2+ (1-5 per 1000X FIELD): GRAM NEGATIVE ROD(S). 1+ (<1 per 1000X
   FIELD): GRAM POSITIVE COCCI. IN PAIRS.
   Urine/blood cxs pending, c. diff pending
   Bone scan: no osteo
   Assessment and Plan
   FEVER, TACHYCARDIA, Leukocytosis - Temperature at 99.1F and pt is
   tachycardic in low 100s. WBC today is down to 12.5. Infection is a
   likely explanation. However, cultures remain negative and CT scans show
   no obvious source of infection aside from potentially lungs.  Left IJ
   line suspected source.  IO device site was soft, nonerythematous, and
   not indurated.
   Per ID recs, pt back on antibiotics
 vancomycin, flagyl, cefepime, and
   micafungin.  Other potential cause of tachycardia includes
   pain/agitation.
   - continue vanc, flagyl, cefepime, and micafungin
   - followup all blood, urine, sputum cultures
   - followup B Glucan result and aspergillus result
   - continue lasix at 3mg/hr
   - consult IR today for more access
   - order plain film and bone scan to check for osteomyelitis at IO
   device site (potential source of infection).  Also check orthopedic
   implants for signs of infection.
 RESPIRATORY FAILURE, ACUTE
 Plan for slow wean as we remove volume
   and HCO3 to allow metabolic compensation for chronic respiratory
   hypercarbia. Patient completing daily pressure support trials
   (yesterday about 10 hours)
   - pressure support trial today. Try P=16 (wean by 2cm H2O per hour),
   PEEP=5.
   - CXR today to check for pneumothorax
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - Urine output strong
   and creatinine resolving
 down to 2.0.
   - continue monitoring I/O and [**Hospital1 7**] lytes.
   - continue to hold diuresis because of fever
 ACIDOSIS, MIXED
 pt has chronic respiratory acidosis (from
   restriction) and now anion gap metabolic acidosis (from DKA, Uremia,
   Lactic acidosis). Bicarb now up to 22 after diuresis. HCO3 needs to
   rise to about 30 in order to extubated.
   However, patient with a net gain of 437ml since midnight now that
   diuresis has been stopped.
   - continue holding lasix drip.
   - continue [**Hospital1 7**] lytes and VBGs.
 HYPERNATREMIA (HIGH SODIUM)
 sodium continues today at 150 down from
   152 yesterday.
   - continue free H2O flushes to 200ml Q4H
   - follow Na
 HYPERGLYCEMIA
 resolving with glucose today at 110. Pt off gtt given
   stable FS.  Now on insulin sliding scale plus fixed dose 15u lantus.
   Dextrose infusions for hypoglycemia.
   - continue to monitor glucose
   - appreciate [**Last Name (un) 303**] recs
 ANEMIA
 HCT up slightly to 24.4 today.  Haptoglobin yesterday
   normal.
   - continue to monitor HCT
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-15**] 05:04 AM 40 mL/hour
   Glycemic Control:  lantus + ISS
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  PPI
   VAP: chlorhexidine
   Communication:  with parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   Total time spent: 40 min CCT

2107-01-16 07:56:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - Did well on PSV all day started to dip to low 90s on sats, went back
   to AC at 10pm
   - Sputum growing pseudomonas
   - Had another temp of 100.4
   - Was even at midnight, lasix drip had been increased to 4/hour hoping
   to catch up in the AM
   - [**Last Name (un) 303**] recommended increasing SSI by 1 unit
   - Cefepime discontinued and replaced with meropenem
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2107-1-14**] 06:32 PM
   Metronidazole - [**2107-1-15**] 04:40 AM
   Vancomycin - [**2107-1-15**] 12:00 PM
   Micafungin - [**2107-1-15**] 10:30 PM
   Meropenem - [**2107-1-16**] 04:12 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-15**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-15**] 07:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2107-1-16**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 109 (96 - 125) bpm
   BP: 105/65(74) {94/47(58) - 127/87(95)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,464 mL
                                                                  1,083 mL
   PO:
             TF:
                                                                    702 mL
                                                                    315 mL
   IVF:
                                                                  1,262 mL
                                                                    288 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  3,825 mL
                                                                  1,410 mL
   Urine:
                                                                  3,825 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 244 (222 - 246) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 156
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 25.5 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 5.4 L/min
   Physical Examination
   Gen: intubated, not sedated, eyes closed
   Neck: L IJ site covered with gauze, minimal erythema
   Chest: rales at R base
   CV: RRR, no M
   Abd: soft, + BS
   Extr: warm, no edema
   Labs / Radiology
   523 K/uL
   7.2 g/dL
   170 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   37 mg/dL
   109 mEq/L
   153 mEq/L
   21.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2107-1-11**]  05:20 PM
                             [**2107-1-12**]  06:17 AM
                             [**2107-1-12**]  02:09 PM
                             [**2107-1-13**]  03:39 AM
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
   WBC
   15.2
   19.1
   12.5
   13.9
   12.3
   Hct
   25.0
   22.7
   22.4
   24.4
   20.2
   25.9
   21.6
   Plt
   [**Telephone/Fax (3) 13314**]95
   523
   Cr
   2.4
   2.4
   2.4
   2.1
   2.1
   2.0
   1.8
   1.7
   1.7
   1.5
   Glucose
   118
   111
   127
   142
   155
   110
   113
   176
   130
   170
   Other labs: PT / PTT / INR:13.5/27.4/1.2, ALT / AST:43/16, Alk Phos / T
   Bili:247/0.4, LDH:308 IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: Sodium back up
   Alk phos trending down
   Microbiology: no new culture data
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Hypoventilatory, chronic CO2 retention and unable to ventilate in
   setting of metabolic acidosis
 PNEUMONIA, ASPIRATION
   CXR and CT documented.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Suspect ATN from poor perfusion
 HYPERNATREMIA (HIGH SODIUM)
   Normalizing
 RASH
   25 y o man with microcephaly, CP, non-verbal at baseline, admitted with
   DKA/HONK, now with resolving ARDS, new fevers and leukocytosis
   1. VAP
   Sputum with pseudomonas. Cefepime changed to meropenem.
   - cont [**Last Name (un) 614**], vanc
   2. Fevers
   Likely [**1-4**] VAP. No osteo. IJ removed and PICC placed
   - cont abx as above
   - cont micafungin given high glucan, f/up repeat glucan, galactomannan
   3.  Respiratory failure
   Initially [**1-4**] aspiration, now with VAP.
   - abx as above
   - diuresis
   4. ARF:
   Improving. Cr 1.5 today. UOP good.
   - cont diuresis
   - check PM lytes
   5. Hyperglycemia: controlled on current lantus + ISS
   6. Hyperatremia:
   Na back to 153.  Continue free water boluses. Check with pharm for
   possible extra sodium loads
   7. Anemia:
   - Hct increased post transfusion
   - guaiac stools
   ICU Care
   Nutrition: Boost Glucose Control (Full) - [**2107-1-15**] 05:04 AM 40
   mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: Multi Lumen - [**2107-1-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: Parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2107-01-16 08:00:00 Physician Attending Progress Note
Chief Complaint: DKA, respiratory failure, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transfused 1 unit RBCs yesterday, Hct 20 then 25, now 21.6
   Remains on PS 10/5
   GN coverage changed to meropenem for PSA in sputum
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: non-verbal at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2107-1-14**] 06:32 PM
   Metronidazole - [**2107-1-15**] 04:40 AM
   Vancomycin - [**2107-1-15**] 12:00 PM
   Micafungin - [**2107-1-15**] 10:30 PM
   Meropenem - [**2107-1-16**] 04:12 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-15**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-15**] 07:53 PM
   Other medications:
   Baclofen
   Miconazole powder
   Colace
   Reglan
   Micafungin
   Heparin SC
   Valium TID
   Meropenem
   Vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-16**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 109 (96 - 125) bpm
   BP: 105/65(74) {94/47(58) - 127/87(95)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,464 mL
                                                                  1,095 mL
   PO:
             TF:
                                                                    702 mL
                                                                    323 mL
   IVF:
                                                                  1,262 mL
                                                                    292 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  3,825 mL
                                                                  1,410 mL
   Urine:
                                                                  3,825 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                   -315 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 244 (222 - 246) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 156
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 25.5 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 5.4 L/min
   Physical Examination
   Gen: awake, eyes open
   Neck: supple
   Chest: CTA anteriorly
   CV: tachy, regular, no M
   Abd: soft, + BS
   Extr: warm, no edema
   Labs / Radiology
   7.2 g/dL
   523 K/uL
   170 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   37 mg/dL
   109 mEq/L
   153 mEq/L
   21.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2107-1-11**]  05:20 PM
                             [**2107-1-12**]  06:17 AM
                             [**2107-1-12**]  02:09 PM
                             [**2107-1-13**]  03:39 AM
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
   WBC
   15.2
   19.1
   12.5
   13.9
   12.3
   Hct
   25.0
   22.7
   22.4
   24.4
   20.2
   25.9
   21.6
   Plt
   [**Telephone/Fax (3) 13314**]95
   523
   Cr
   2.4
   2.4
   2.4
   2.1
   2.1
   2.0
   1.8
   1.7
   1.7
   1.5
   Glucose
   118
   111
   127
   142
   155
   110
   113
   176
   130
   170
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:43/16, Alk Phos / T Bili:247/0.4,
   Amylase / Lipase:/33, Differential-Neuts:78.0 %, Band:1.0 %, Lymph:11.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:308 IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Vanco level: 24.5
   Micro:
   Sputum [**1-11**], [**1-13**], and [**1-15**]: pseudomonas, pan-S on [**1-13**], MIC to zosyn =
   16
   Studies:
   CXR [**1-16**]: PICC in top of RA, unchanged R sided opacities
   Assessment and Plan
   25 y o man with microcephaly, CP, non-verbal at baseline, admitted with
   DKA/HONK, now with persistent respiratory failure.
   1. Respiratory failure: initial macro-aspiration with likely resultant
   ARDS, then improved, and now with likely new pseudomonal VAP.  Sputum
   cultures from [**Date range (1) 13319**] with PSA, developing intermediate sensitivity to
   zosyn, so now on meropenem. Tolerating PS 5/5 now.
   - continue on PS 5/5
   - continue to diurese: TBB goal
 500ccs
   - continue meropenem for PSA
   - extubate today vs. tomorrow
   2.  Fevers: no osteo by x-ray/bone scan, all blood cultures still neg,
   L IJ out yesterday, new PICC placed. Now with PSA VAP, and leukocytosis
   and temps improving with addition of meropenem.  Glucan > 500, repeats
   pending.
   - Continue Meropenem
   - D/c vancomycin
   - Continue micafungin given high glucan, f/up repeat glucan,
   galactomannan
   3. ARF: Cr down to 1.5 from peak in mid-2s, with good UOP, tolerating
   Lasix gtt
   - TBB goal
 500 ccs/24 hours
   - check PM lytes
   4. Hyperglycemia: controlled on current lantus + ISS
   5. Hyperatremia: up again today to 153
   -  increase free water boluses to 250 Q4H
   6. Anemia: likely [**1-4**] phlebotomy, s/p 1 unit yesterday with appropriate
   response, but down again today.  Guaiac neg.
   - recheck PM Hct
   ICU Care
   Nutrition: TFs; will hold at MN for ?extubation tomorrow
   Boost Glucose Control (Full) - [**2107-1-16**] 02:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP: chlorhexidine
   Communication:  with parents
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent:  40 min CCT

2107-01-17 06:23:00 Physician Resident Progress Note
Chief Complaint: PNA
   24 Hour Events:
   - PICC pulled back
   - tube feeds held at midnight for possible extubation
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Patient unable to provide history: non-verbal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2107-1-14**] 06:32 PM
   Metronidazole - [**2107-1-15**] 04:40 AM
   Vancomycin - [**2107-1-15**] 12:00 PM
   Micafungin - [**2107-1-16**] 05:49 PM
   Meropenem - [**2107-1-17**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-16**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-16**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Flowsheet Data as of  [**2107-1-17**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 101 (100 - 122) bpm
   BP: 102/48(62) {92/42(55) - 113/68(79)} mmHg
   RR: 12 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 32.7 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,582 mL
                                                                    588 mL
   PO:
             TF:
                                                                    981 mL
                                                                      1 mL
   IVF:
                                                                    971 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  4,700 mL
                                                                    830 mL
   Urine:
                                                                  4,700 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,118 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 210 (210 - 254) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : anteriorlly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   452 K/uL
   8.8 g/dL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.4 mEq/L
   37 mg/dL
   103 mEq/L
   148 mEq/L
   26.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2107-1-13**]  03:39 AM
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
   WBC
   19.1
   12.5
   13.9
   12.3
   10.5
   8.4
   Hct
   22.7
   22.4
   24.4
   20.2
   25.9
   21.6
   29.1
   26.6
   Plt
   [**Telephone/Fax (3) 13330**]23
   535
   452
   Cr
   2.1
   2.1
   2.0
   1.8
   1.7
   1.7
   1.5
   1.5
   1.3
   Glucose
   142
   155
   110
   113
   176
   130
   170
   162
   145
   Other labs: Ca++:8.3 mg/dL, Mg++:3.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   25 y o man with microcephaly, CP, non-verbal at baseline, admitted with
   DKA/HONK, now with resolving ARDS, and pseudomonal VAP.
   1. Respiratory failure/VAP
   Initially [**1-4**] aspiration, now with VAP. Treating pseudomonal VAP with
   meropenem. Consider extubation
   -- cont [**Last Name (un) 614**] for 15 day course. Last day 2/238
   -- diuresed 1L
   -- extubation today vs tomorrow, tube feeds held at midnight
   2.  Fevers: Resolving now since [**First Name9 (NamePattern2) 13333**] [**Last Name (un) 614**] for treatement on
   pseudomonal VAP. No osteo by x-ray/bone scan, all blood cultures still
   neg, new PICC placed.  Glucan > 500, repeats pending.
   - Continue Meropenem
   -- cont micafungin for elevated beta glucan, f/u repeat assays
   3. ARF:
   Improving. Cr 1.3 today. UOP good.  1L negative yesterday.
   - cont diuresis: goal 500 cc negative
   - check PM lytes
   4. Hyperglycemia: controlled on current lantus + ISS
   5. Hyperatremia:
   Improving after increasing water boluses to 250 Q4.
   6. Anemia:
   Stools guaiac negative. Hct down to 21 yesterday am but repeat was
   29.1. Stable.
   7. Cerebral Palsy
   -- cont home baclofen and valium for contractures
   ICU Care
   Nutrition: TFs; will hold at MN for ?extubation tomorrow
   Boost Glucose Control (Full) - [**2107-1-16**] 02:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP: chlorhexidine
   Communication:  with parents
   Code status: DNR (do not resuscitate)
   Disposition : ICU

2107-01-17 08:33:00 Physician Attending Progress Note
Chief Complaint:  DKA, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PICC pulled  back by IV team
   Diuresed, net neg 1L
   PM Hct 29
   2 hours on PS 5/5, then back on AC o/n, now on PS again
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: non-verbal at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2107-1-14**] 06:32 PM
   Metronidazole - [**2107-1-15**] 04:40 AM
   Vancomycin - [**2107-1-15**] 12:00 PM
   Micafungin - [**2107-1-16**] 05:49 PM
   Meropenem - [**2107-1-17**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-1-16**] 07:57 PM
   Other medications:
   Baclofen
   Miconazole powder
   Colace
   Reglan
   Heparin SC
   Micafungin
   Valium
   Meropenem
   Chlorhexidine
   Lantus 15 (got
 dose today) + ISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-17**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 108 (100 - 122) bpm
   BP: 115/65(76) {92/42(55) - 115/68(79)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 32.7 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,582 mL
                                                                    723 mL
   PO:
             TF:
                                                                    981 mL
                                                                      1 mL
   IVF:
                                                                    971 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  4,700 mL
                                                                    930 mL
   Urine:
                                                                  4,700 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,118 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 240 (210 - 254) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 4.1 L/min
   Physical Examination
   Gen: asleep, does not open eyes to voice
   Chest: few rales R base
   CV: tachy, regular, no murmurs
   Abd: soft + BS
   Extr: no edema
   Labs / Radiology
   8.8 g/dL
   452 K/uL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.4 mEq/L
   37 mg/dL
   103 mEq/L
   148 mEq/L
   26.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2107-1-13**]  03:39 AM
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
   WBC
   19.1
   12.5
   13.9
   12.3
   10.5
   8.4
   Hct
   22.7
   22.4
   24.4
   20.2
   25.9
   21.6
   29.1
   26.6
   Plt
   [**Telephone/Fax (3) 13330**]23
   535
   452
   Cr
   2.1
   2.1
   2.0
   1.8
   1.7
   1.7
   1.5
   1.5
   1.3
   Glucose
   142
   155
   110
   113
   176
   130
   170
   162
   145
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:43/16, Alk Phos / T Bili:247/0.4,
   Amylase / Lipase:/33, Differential-Neuts:78.0 %, Band:1.0 %, Lymph:11.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:308 IU/L, Ca++:8.3 mg/dL, Mg++:3.0 mg/dL, PO4:3.8
   mg/dL
   Micro: sputum [**1-15**]: sparse PSA, sensis pending
   C. diff neg
   CXR: PICC in SVC, persistent R midlung zone opacity, slightly improved
   aeration of R lung base
   Assessment and Plan
   25 y o man with microcephaly, CP, non-verbal at baseline, admitted with
   DKA/HONK, now with persistent respiratory failure.
   1. Respiratory failure: initial macro-aspiration with likely resultant
   ARDS, then improved, and now with likely new pseudomonal VAP.  Sputum
   cultures from [**Date range (1) 13319**] with PSA, developing intermediate sensitivity to
   zosyn, so now on meropenem. Tolerating PS again today.  VTs slightly
   lower.
   - continue on PS 10/5
   - check VBG
   - TBB goal even to slightly neg
   - continue meropenem for PSA, f/up sensis, and ?narrow
   - extubate today vs. tomorrow, will d/w anaesthesia re: potential for
   needing reintubation
   2.  Fevers: no osteo by x-ray/bone scan, all blood cultures still neg,
   L IJ out yesterday, new PICC placed. Now with PSA VAP, and leukocytosis
   and temps improving with addition of meropenem.  Glucan > 500, repeats
   pending.  D/ced vanco yesterday as no evidence of GP bacteria.
   - Continue Meropenem
   - Continue micafungin given high glucan, f/up repeat glucan,
   galactomannan
   3. ARF: Cr down to 1.3 from peak in mid-2s, with good UOP, tolerating
   Lasix gtt
   - TBB goal even to sl neg
   4. Hyperglycemia: controlled on current lantus + ISS
   5. Hyperatremia: improved with increased free water boluses to 250 Q4H
   6. Anemia: likely [**1-4**] phlebotomy, s/p 1 unit Sat with appropriate
   response. Guaiac neg. Hct 26 today.
   - monitor daily
   ICU Care
   Nutrition:  TFs on hold for ?extubation in PM
   Glycemic Control:  lantus + SSI
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:  chlorhexidine
   Communication: with parents
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35 min CCT

2107-01-18 07:19:00 Physician Resident Progress Note
Chief Complaint: 25M with microcephaly/cerebral palsy who presented in
   DKA/HHS.  Subsequently aspirated and developed multiorgansystem failure
   (respiratory, renal, shock).  Patient was intubated and on pressors.
   Completed course of broad spectrum ABX.  Now still intubated but off
   pressors.
   24 Hour Events:
 SPUTUM CULTURE - At [**2107-1-17**] 02:30 PM
 BLOOD CULTURED - At [**2107-1-17**] 05:10 PM
   from PICC
 BLOOD CULTURED - At [**2107-1-17**] 05:30 PM
   from PICC
 URINE CULTURE - At [**2107-1-17**] 05:30 PM
 FEVER - 101.2
F - [**2107-1-17**] 04:00 PM
   [**1-14**]
   - Continued on cefepime, vanc, micofungin, flagyl
   - Lasix gtt increased
   - Xray no periosteal reaction to suggest osteo
   - Bone scan unlikely infection
   - Picc line placed, central line d/c'd
   - [**Last Name (un) 303**] recs: Increased ISS by 1unit
   - Transfused 1upRBC for hct 20
   - Temp 101 -> pancultured
   [**1-15**]
   - Did well on PSV all day started to dip to low 90s on sats, went back
   to AC at 10pm
   - Sputum growing pseudomonas
   - Had another temp of 100.4
   - Was even at midnight, lasix drip had been increased to 4/hour hoping
   to catch up in the AM
   - [**Last Name (un) 303**] recommended increasing SSI by 1 unit
   - Cefepime discontinued and replaced with meropenem
   [**1-16**]
   - almost a liter negative
   - PICC pulled back
   - tube feeds held at midnight for possible extubation
   [**1-17**]
   - Sputum senstitive to cefepime w/ MIC of 2(on meropenem)
   - Was on pressure support, but then had an apneic episode, got put back
   on volume control
   - Spiked to 101, pan-cultured, vanc level at 9, so gave a dose 500mg iv
   once
   - vbg: 7.48/45/60/34
   - Went up by 1 unit on sliding scale
   - galactomannan neg, b-glucan pending
   - pt was hypoxic to high 80s overnight, FIO2 increased to 50%.
   Improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2107-1-17**] 06:30 PM
   Vancomycin - [**2107-1-17**] 07:30 PM
   Meropenem - [**2107-1-18**] 04:22 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-17**] 08:02 PM
   Fentanyl - [**2107-1-18**] 02:34 AM
   Other medications:
   Flowsheet Data as of  [**2107-1-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.7
   HR: 117 (105 - 126) bpm
   BP: 103/56(66) {95/44(56) - 124/67(80)} mmHg
   RR: 12 (12 - 64) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 36.7 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  2,125 mL
                                                                    360 mL
   PO:
             TF:
                                                                    201 mL
                                                                    103 mL
   IVF:
                                                                  1,284 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    495 mL
   Urine:
                                                                  2,340 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -215 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 177 (163 - 177) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: ///30/
   Ve: 3.2 L/min
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
                                   Intubat
                                   Comment
   [2][**2107-1-17**] 03:47PM
                                     [**Last Name (un) **]
   0/24
   5
                                     40
   60*
                                     45
                                    7.48*
                                     34*
                                      8
                                  INTUBATED
   Physical Examination
   GEN: Young man with cerebral palsy, intubated, sedated, responsive to
   voice, slightly agitated from ET tube
   CV: RRR, no RMG
   PULM: CTAB anteriorly
   ABD: Soft, NTND, +BS
   EXT: No edema
   Labs / Radiology
   549 K/uL
   8.9 g/dL
   155 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.1 mEq/L
   32 mg/dL
   103 mEq/L
   148 mEq/L
   27.3 %
   8.3 K/uL
        [image003.jpg]
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
   WBC
   12.5
   13.9
   12.3
   10.5
   8.4
   8.3
   Hct
   22.4
   24.4
   20.2
   25.9
   21.6
   29.1
   26.6
   27.3
   Plt
   384
   495
   523
   535
   452
   549
   Cr
   2.1
   2.0
   1.8
   1.7
   1.7
   1.5
   1.5
   1.3
   1.2
   Glucose
   155
   110
   113
   176
   130
   170
   162
   145
   155
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:43/16, Alk Phos / T Bili:247/0.4,
   Amylase / Lipase:/33, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:26.0
   %, Mono:5.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:308 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   [3][image001.gif]   RED CELL MORPHOLOGY
                                   Hypochr
                                   Anisocy
                                   Poiklo
                                   Macrocy
                                   Microcy
                                   Polychr
                                   Spheroc
                                   Ovalocy
                                   Schisto
                                   Stipple
   [4][**2107-1-18**] 05:23AM
                                 OCCASIONAL
                                     1+
                                   NORMAL
                                     1+
                                   NORMAL
                                   NORMAL
   [5][image004.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [6][**2107-1-18**] 05:23AM
                                   155*[1]
                                     32*
                                     1.2
                                    148*
                                    3.1*
                                     103
                                     30
                                     18
   Source: Line-PICC; @ TROUGH
   [7][**2107-1-17**] 03:48AM
                                   145*[1]
                                     37*
                                    1.3*
                                    148*
                                     3.4
                                     103
                                     29
                                     19
   Source: Line-PICC
   [8][**2107-1-16**] 04:20PM
                                   162*[1]
                                     36*
                                    1.5*
                                    147*
                                     4.5
                                     105
                                     25
                                     22*
   [9][image001.gif]   ANTIBIOTICS
                                    Vanco
   [10][**2107-1-18**] 05:23AM
                                    25.3*
   [11][image001.gif]   WHOLE BLOOD, MISCELLANEOUS CHEMISTRY
                                   Glucose
                                   Lactate
                                     Na
                                      K
                                     Cl
   [12][**2107-1-17**] 11:21AM
                                     1.2
   Imaging: CXR [**2107-1-17**]
   Preliminary Report !! WET READ !!
   No significant change.
   DR. [**First Name (STitle) 13359**] [**Name (STitle) 13360**]
   Wet read entered: MON [**2107-1-17**] 7:22 PM
   CXR [**2107-1-17**]
   Final Report
   HISTORY: PICC line placement.
   FINDINGS: In comparison with the study of [**1-16**], the left subclavian
   catheter appears to have been withdrawn somewhat with the tip now in
   the mid-to-lower portion of the SVC. Otherwise, little change.
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) **]
   Approved: MON [**2107-1-17**] 10:10 AM
   CXR [**2107-1-16**]
   Final Report
   HISTORY: Assess for NG tube placement.
   NG tube is partially obscured by spinal rods. However, the tip overlies
   the
   distal stomach. If an ET tube is present, it is not well visualized on
   these films. a Left subclavian line is present -- the tip overlies the
   upper RA.
   The thoracic cavity is atypical in morphology, consistent with the
   provided clinical history. Allowing for overlying materials, there is
   faint patchy opacity in the right mid zone similar to that demonstrated
   on a [**2107-1-12**] CT scan and consistent with aspiration pneumonia. No new
   opacity is identified.
   No CHF or effusion.
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) 13361**]
   Approved: SUN [**2107-1-16**] 11:22 AM
   Microbiology: [**2107-1-17**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2107-1-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-1-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-1-17**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY;
   FUNGAL CULTURE-PRELIMINARY INPATIENT
   [**2107-1-15**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   {PSEUDOMONAS AERUGINOSA} INPATIENT
   RESPIRATORY CULTURE (Final [**2107-1-17**]):
   Commensal Respiratory Flora Absent.
   PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
   SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
   PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------     2 S
   CEFTAZIDIME-----------     4 S
   CIPROFLOXACIN---------   0.5 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------     2 S
   PIPERACILLIN/TAZO-----    16 S
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
   25M with microcephaly/CP, non-verbal at baseline, admitted with
   DKA/HHS, now with persistent respiratory failure.
   1. Respiratory failure: Significantly improved after doing well with
   PSV trial all day yesterday however alarming to apnea yesterday ([**Last Name **]
   problem) and has been off sedation however getting boluses of fenanyl
   and midaz. Went back to AC for apnea. More alert, but still breathing
   at 14 now. Cause of respiratory failure was thought initially
   macro-aspiration with likely resultant ARDS, then improved, and now
   with likely new pseudomonal VAP.  Sputum cultures from [**Date range (1) 13319**] with
   pseudamonas, developing intermediate sensitivity to zosyn, so now on
   meropenem.
   - continue trial on PS weaning down to 10/5 today with bolus sedation.
   - Unlikely extubation today given apnea
   - consider mandatory minute ventilation
   - continue VBG daily
   - continue lasix drip at 2mg/hr with goal even
   - continue meropenem for pseudomonas
   - ask ID whether would be worth double covering pt
s pseudomonas  given
   persistent positive sputum cultures
   - will clarify patient
s complicated abx history
   - DC vanc given no e/o gram positives in cultures
   - consider extubation today of patient tolerating pressure support
   trial.
   - d/w family re possible trach if no improvement
   2.  Fevers: patient has had temperature elevations over past several
   days.  No osteo by x-ray/bone scan, all blood cultures still neg, L IJ
   out on Sunday, new PICC placed. Now with PSA VAP, and leukocytosis and
   temps improving with addition of meropenem.  Glucan > 500, repeats
   pending. Galactomannan negative.  D/ced vanco Sunday as no evidence of
   GP bacteria.
   - Continue Meropenem
   - Continue micafungin given high glucan, f/up repeat glucan
   - obtain LENIs given fevers
   3. ARF: Cr down to 1.2 from peak in mid-2s, with good UOP (Urine
   OutPut), tolerating Lasix drip.
   - TBB goal even to slightly neg
   - Monitor HCT
   4. Hyperglycemia: well controlled on current lantus + ISS
   - continue RISS and lantus
   5. Hyperatremia: improved with increased free water boluses to 250 Q4H.
   Na 148 today.
   - continue free water boluses at 250ml Q4H
   6. Anemia: likely secondary to phlebotomy, pt had 1 unit Sat with
   appropriate response. Guaiac neg. HCT 27.3 today.
   - continue to monitor
   ICU Care
   Nutrition: restart tube feeds Boost glucose control at 40mg/hr
   Glycemic Control:  RISS and lantus as above
   Lines: PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: heparin SC at reduced dose,
   Stress ulcer: protonix
   VAP:
   Communication:  parents
   Code status: DNR (do not resuscitate) but not DNI
   Disposition: ICU
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
   3. javascript:command('LHBF','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   5. javascript:command('LCBA','expand')
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   9. javascript:command('LCBh','expand')
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
  11. javascript:command('LGBE','expand')
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);

2107-01-18 11:19:00 Physician Attending Progress Note
Chief Complaint: HNK/DKA, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25M microcephaly, CP, non-verbal at baseline, admitted with DKA/HNK,
   now with persistent respiratory failure and VAP.
   24 Hour Events:
 SPUTUM CULTURE - At [**2107-1-17**] 02:30 PM
 BLOOD CULTURED - At [**2107-1-17**] 05:10 PM
   from PICC
 BLOOD CULTURED - At [**2107-1-17**] 05:30 PM
   from PICC
 URINE CULTURE - At [**2107-1-17**] 05:30 PM
 FEVER - 101.2
F - [**2107-1-17**] 04:00 PM
   febrile overnight
   tolerate PS yesterday--> returned to ACV in evening [**1-4**] apnea/low resp
   rates
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2107-1-17**] 06:30 PM
   Vancomycin - [**2107-1-17**] 07:30 PM
   Meropenem - [**2107-1-18**] 04:22 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2107-1-18**] 02:34 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-18**] 08:12 AM
   Pantoprazole (Protonix) - [**2107-1-18**] 08:13 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-18**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.7
   HR: 119 (108 - 126) bpm
   BP: 104/58(68) {95/44(56) - 124/67(80)} mmHg
   RR: 13 (12 - 64) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 36.7 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  2,125 mL
                                                                    501 mL
   PO:
             TF:
                                                                    201 mL
                                                                    103 mL
   IVF:
                                                                  1,284 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    745 mL
   Urine:
                                                                  2,340 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -215 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 177 (177 - 177) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 3.5 L/min
   Physical Examination
   intubated M w/ microcephaly, severely contractured
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, no M
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   decreased bb BS, Clear ant
   Abd: soft, NT, +BS
   Extremities: w/o edema
   Neurologic:awake, unable to follow commands at baseline
   Labs / Radiology
   8.9 g/dL
   549 K/uL
   155 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.1 mEq/L
   32 mg/dL
   103 mEq/L
   148 mEq/L
   27.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2107-1-13**]  02:38 PM
                             [**2107-1-14**]  04:15 AM
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
   WBC
   12.5
   13.9
   12.3
   10.5
   8.4
   8.3
   Hct
   22.4
   24.4
   20.2
   25.9
   21.6
   29.1
   26.6
   27.3
   Plt
   384
   495
   523
   535
   452
   549
   Cr
   2.1
   2.0
   1.8
   1.7
   1.7
   1.5
   1.5
   1.3
   1.2
   Glucose
   155
   110
   113
   176
   130
   170
   162
   145
   155
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:43/16, Alk Phos / T Bili:247/0.4,
   Amylase / Lipase:/33, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:26.0
   %, Mono:5.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:308 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   Microbiology: bl/urine pending,
   [**1-15**] sputum with min PSA
   BD glucan > 500
   galactomannan neg
   Assessment and Plan
   Active issues remain
   # Respiratory failure: initially [**1-4**] macro-aspiration w/ resultant
   ARDS, now w/ pseudomonal VAP.
   --Apneas overnight on PS--? related to alkalotic status in setting of
   diuresis in pt with known chronic co2 retension
   --does not appear volume overloaded by exam, so will decrease lasix
   drip and allow him to run even and reequilibriate, consider diamox for
   alkalosis
   --resume PS and if continues to have apneas would use MMV
   --Follow vbg
   --now intubated X 2 wks and continues to fail wean attempts, will
   address issue of trach with family
   # VAP-PSA
   - Continue meropenem, day [**2-13**], d/w ID double coverage given continued
   GNR in sputum, f/u cx data
   --Dd/c vanco as no GP cx growth
   --Given pos BDG we con
t micofungin
   # Fevers: continue, though w/o leukocytosis
   extensive work up has revealed PSA VAP which we are treating, pos BDG
   on micofungin, otherwise no evidence of osteo by x-ray/bone scan, all
   blood cultures remain neg, L IJ d/c
d and has new PICC, LFTs nl,
   ? drug fever, clot, sinusitis
   --will r/o DVT with LENIs, consider repeat head CT to assess sinusitis,
   send diff
   - Continue Meropenem
   - Continue micafungin given high glucan, f/u repeat glucan,
   galactomannan
   # ARF: Cr continues to improve, good UOP, tolerating Lasix gtt
   - goal is to keep even given insensible losses with fevers
   # Hyperglycemia: well controlled on current lantus + ISS
    # Hyperatremia: improving with increased free water boluses
   Remainder as outlined in housestaff PN
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: family updated at bedside
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Pt continues to have intermittent apneas now on MMV.  More hypotensive
   (MAPS> 60).  UOP decreased and suspect he is intravascularly dry.
   Lasix gtt stopped and will give fluid bolus following MAPS and UOP.
   Family now requesting possible transfer to Children
s due to pediatric
   familiarity with pt
s condition and need for some special equipment.
   We have called Children
s requesting this transfer, and await further
   discussion and call back.
   Family updated to current status and all questions answered.
   Additional crit care time spent in discussion and family update:  30
   min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2107-1-18**] 08:13 PM ------

2107-01-19 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2107-1-18**] 02:38 PM
 STOOL CULTURE - At [**2107-1-19**] 12:50 AM
   [**2107-1-18**]
   - discussed transfer to CHB with parents and talked to CHB ICU. They
   will discuss him on [**1-19**] and get back to us.
   - SBP fell to 80s. Lasix drip stopped. Given 500ml NS.
   - He did PSV 12/5 still with multiple apneic episodes and therefore
   switched to MMV
   - MAPs were above 60 but still hypotensive, stopped Lasix drip and gave
   a bolus
   - LENI's limited but negative (prelim)
   - ID did not think double covering for psuedomonas was worthwhile
   because this is normally done for covering for resistance, since this
   is a pansensitive organism, not useful
   - ID said extubating would help to clear his PNA by helping him clear
   his secretions
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-17**] 07:30 PM
   Micafungin - [**2107-1-18**] 05:38 PM
   Meropenem - [**2107-1-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-18**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-18**] 08:00 PM
   Fentanyl - [**2107-1-19**] 05:11 AM
   Other medications:
   Flowsheet Data as of  [**2107-1-19**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 112 (98 - 129) bpm
   BP: 107/75(82) {88/42(55) - 120/75(85)} mmHg
   RR: 16 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35.2 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,064 mL
                                                                    953 mL
   PO:
             TF:
                                                                    589 mL
                                                                    160 mL
   IVF:
                                                                  1,535 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                    533 mL
   Urine:
                                                                  1,820 mL
                                                                    533 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,244 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 187 (187 - 234) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%                                RSBI today = 172
   RSBI: 172
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/47/46/28/6
   Ve: 3.5 L/min
   PaO2 / FiO2: 115
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
                                   Comment
   [2][**2107-1-19**] 04:24AM
                                     ART
   46*[1]
                                     47*
                                    7.44
                                     33*
                                      6
   Physical Examination
   Unchanged from yesterday
 patient alert, abdomen soft.
   Labs / Radiology
   491 K/uL
   7.9 g/dL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.2 mEq/L
   32 mg/dL
   99 mEq/L
   139 mEq/L
   23.3 %
   7.3 K/uL
        [image003.jpg]
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
                             [**2107-1-19**]  03:56 AM
                             [**2107-1-19**]  04:24 AM
   WBC
   13.9
   12.3
   10.5
   8.4
   8.3
   7.3
   Hct
   20.2
   25.9
   21.6
   29.1
   26.6
   27.3
   23.3
   Plt
   495
   523
   535
   452
   549
   491
   Cr
   1.8
   1.7
   1.7
   1.5
   1.5
   1.3
   1.2
   1.0
   TCO2
   33
   Glucose
   113
   176
   130
   170
   162
   145
   155
   140
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:25/23, Alk Phos / T Bili:216/0.3,
   Amylase / Lipase:/33, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:26.0
   %, Mono:5.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:301 IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.4
   mg/dL
   [3][image004.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [4][**2107-1-19**] 03:56AM
                                     7.3
                                    2.69*
                                    7.9*
                                    23.3*
                                     87
                                    29.2
                                    33.7
                                    17.8*
                                    491*
   Source: Line-PICC
   [5][**2107-1-18**] 05:23AM
                                     8.3
                                    3.13*
                                    8.9*
                                    27.3*
                                     87
                                    28.5
                                    32.8
                                    18.5*
                                    549*
   Source: Line-PICC
   [6][**2107-1-17**] 05:04AM
                                     8.4
                                    3.05*
                                    8.8*
                                    26.6*
                                     87
                                    28.9
                                    33.2
                                    19.2*
                                    452*
   [7][**2107-1-16**] 04:20PM
                                    10.5
                                   3.39*#
                                    9.4*#
                                   29.1*#
                                     86
                                    27.7
                                    32.3
                                    19.1*
                                    535*
   Source: Line-PICC
   [8][image004.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [9][**2107-1-19**] 03:56AM
                                   140*[1]
                                     32*
                                     1.0
                                     139
                                    3.2*
                                     99
                                     28
                                     15
   Source: Line-PICC
   [10][**2107-1-18**] 05:23AM
                                   155*[1]
                                     32*
                                     1.2
                                    148*
                                    3.1*
                                     103
                                     30
                                     18
   Source: Line-PICC; @ TROUGH
   [11][**2107-1-17**] 03:48AM
                                   145*[1]
                                     37*
                                    1.3*
                                    148*
                                     3.4
                                     103
                                     29
                                     19
   Source: Line-PICC
   [12][**2107-1-16**] 04:20PM
                                   162*[1]
                                     36*
                                    1.5*
                                    147*
                                     4.5
                                     105
                                     25
                                     22*
   [13][image004.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [14][**2107-1-19**] 03:56AM
                                     25
                                     23
                                    301*
   216*
   0.3
   Source: Line-PICC
   [15][**2107-1-16**] 05:53AM
                                     43*
                                     16
                                    308*
   247*
   0.4
   Imaging: Final Report
   HISTORY: 25-year-old man with cerebral palsy. Now fever despite
   antibiotics.
   Assess for DVT.
   COMPARISON: Limited comparison from prior left lower extremity DVT
   study on
   [**2107-1-5**].
   Grayscale and color son[**Name (NI) 9467**] were obtained from the bilateral lower
   extremities. The study is slightly limited by the baseline small
   caliber of
   veins and also by patient's left lower extremity contracture. Allowing
   for
   the limitations, there is unchanged lack of respiratory variability in
   the
   left common femoral vein. The left common femoral vein is otherwise
   fully
   compressible and without evidence of thrombosis. The bilateral
   superficial
   femoral, popliteal and calf veins as well as the right common femoral
   vein are
   normal in compressibility, augmentation and Doppler waveforms. There is
   no
   evidence of DVT.
   IMPRESSION: Slightly limited study but no evidence of DVT in either
   lower
   extremity.
   DR. [**First Name8 (NamePattern2) 13383**] [**Last Name (NamePattern1) 13384**]
   DR. [**First Name (STitle) 13385**] [**Name (STitle) 13386**]
   Approved: TUE [**2107-1-18**] 11:45 PM
   Microbiology: [**2107-1-17**] 2:35 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2107-1-17**]):
   [**9-26**] PMNs and <10 epithelial cells/100X field.
   4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   Commensal Respiratory Flora Absent.
   GRAM NEGATIVE ROD #1.    MODERATE GROWTH.
   GRAM NEGATIVE ROD #2.    SPARSE GROWTH.  SUGGESTING PSEUDOMONAS.
   FUNGAL CULTURE (Preliminary):
   [**2107-1-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2107-1-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
   25M with microcephaly/CP, non-verbal at baseline, admitted with
   DKA/HHS, now with persistent respiratory failure.
   1. Respiratory failure:  Cause of initial respiratory failure was
   aspiration with resultant ARDS, which improved. But now with likely new
   pseudomonal VAP as per sputum cultures from [**Date range (1) 13319**], so now on
   meropenem. Was improving with PSV trials. However apnea on [**1-17**] ([**Last Name **]
   problem) required switch to pressure support with MMV.  Cause of
   current apnea is unknown.
   Pt is more alert now and venous gases show no acid base disturbance.
   ID recs say extubation would allow patient to better clear secretions.
   In reviewing antibiotic history, ID rec against double coverage for pan
   resistant pseudomonas.
   RSBI today = 172, however, patient has small, unique habitus and has
   6.0mm ET tube (two factors known to increase RSBI)
   - cxr today to eval interval change
   - continue another trial on PS weaning down to 10/5 today with bolus
   sedation
   - get NIFF today
   - consider extubation today
   - continue VBG daily
   - continue meropenem (start [**1-15**]) for pseudomonas
   2.  Fevers: patient has had temperature elevations over past several
   days. Tmax today 100.7 and Tcurrent 99.2.  WBC leukocytosis resolving
   with WBC now at 7.3 from 8.3 yesterday.  No osteo by x-ray/bone scan,
   all blood cultures still neg, L IJ out on Sunday, new PICC placed. Now
   with PSA VAP, and leukocytosis and temps.  Glucan > 500 twice with
   Galactomannan negative.
   - continue meropenem for pseudomonas in sputum
   - continue micafungin given high glucan
   3. ARF: Cr down to 1.0 today from peak in mid-2s, with good UOP (Urine
   OutPut).
   - continue to hold lasix (pt no longer appears volume overloaded and
   has insensible losses from fever)
   4. Hyperglycemia: well controlled on current lantus + ISS
   - continue RISS and lantus
   5. Hyperatremia: improved with increased free water boluses to 250 Q4H.
   Na 148 today.
   - continue free water boluses at 250ml Q4H
   6. Anemia: likely secondary to phlebotomy, pt had 1 unit Sat with
   appropriate response. Guaiac neg. HCT 23.3 today.
   - continue to monitor
   ICU Care
   Nutrition: Boost glucose control
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU - talk with CHB today about possible transfer.
   12:48
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   3. javascript:command('LHBC','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   8. javascript:command('LCBA','expand')
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
  13. javascript:command('LCBD','expand')
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);

2107-01-19 12:10:00 Physician Attending Progress Note
Chief Complaint: DKA/HNK, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  25M microcephaly, CP, non-verbal at baseline, admitted with
   DKA/HNK, now with persistent respiratory failure and VAP.
   24 Hour Events:
 ULTRASOUND - At [**2107-1-18**] 02:38 PM
 STOOL CULTURE - At [**2107-1-19**] 12:50 AM
   transient hypotension, responded to IVF bolus, lasix gtt stopped
   remains on MMV
   LENIs limited study / neg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-17**] 07:30 PM
   Micafungin - [**2107-1-18**] 05:38 PM
   Meropenem - [**2107-1-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2107-1-19**] 05:11 AM
   Pantoprazole (Protonix) - [**2107-1-19**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-19**] 08:06 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-19**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 103 (98 - 129) bpm
   BP: 98/61(69) {88/42(55) - 120/75(85)} mmHg
   RR: 17 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35.2 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,064 mL
                                                                  1,156 mL
   PO:
             TF:
                                                                    589 mL
                                                                    160 mL
   IVF:
                                                                  1,535 mL
                                                                    496 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                    843 mL
   Urine:
                                                                  1,820 mL
                                                                    843 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,244 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 218 (187 - 234) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 172
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.44/47/46/28/6
   Ve: 6.2 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance: No acute distress, awake, alert
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Labs / Radiology
   7.9 g/dL
   491 K/uL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.2 mEq/L
   32 mg/dL
   99 mEq/L
   139 mEq/L
   23.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2107-1-14**]  05:57 PM
                             [**2107-1-15**]  02:47 AM
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
                             [**2107-1-19**]  03:56 AM
                             [**2107-1-19**]  04:24 AM
   WBC
   13.9
   12.3
   10.5
   8.4
   8.3
   7.3
   Hct
   20.2
   25.9
   21.6
   29.1
   26.6
   27.3
   23.3
   Plt
   495
   523
   535
   452
   549
   491
   Cr
   1.8
   1.7
   1.7
   1.5
   1.5
   1.3
   1.2
   1.0
   TCO2
   33
   Glucose
   113
   176
   130
   170
   162
   145
   155
   140
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:25/23, Alk Phos / T Bili:216/0.3,
   Amylase / Lipase:/33, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:26.0
   %, Mono:5.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:301 IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.4
   mg/dL
   Imaging: pending
   Microbiology: [**1-17**]--GNR, PSA
   Assessment and Plan
   Active issues remain
   # Respiratory failure: initially [**1-4**] macro-aspiration w/ resultant
   ARDS, now w/ pseudomonal VAP.
   He is doing better today, breathing spontaneously on PS, no longer
   riding MMV.  Thick secretions, but with some decrease in sx needs.
   --Will con
t PSV weans
   --Follow vbg
   --Check nif
   --Now intubated X 2 wks and has failed wean attempts. At this time
   seems to be making progress, more alert, secretions thick but minimal
   sx needs, will reassess for possible extubation, will need anesthesia
   present
   # VAP
   - Completing 14 day course meropenem for PSA, f/u cx data for
   additional GNR.
   --Given pos BDG we con
t micofungin
   # Fevers: fever curve improving. remains w/o leukocytosis
   Extensive infection work up has revealed PSA VAP which we are treating,
   pos BDG on micofungin, otherwise no evidence of osteo by x-ray/bone
   scan, all blood cultures remain neg, L IJ d/c
d and has new PICC, LFTs
   nl, LENIs neg.
   ---? drug fever, sinusitis
additional GNR in sputum, ID pending
   # ARF: Cr continues to improve, UOP remains adequate,
   Follow i/os with goal even fluid balance
   # Hyperglycemia: well controlled on current lantus + ISS
   Remainder as outlined in housestaff PN
   ICU Care
   Nutrition: hold TFs for possible extubation, nutrition regarding
   concentrating TFS
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: family updated at bedside
   Code status: DNR (do not resuscitate)
   Disposition :remains in ICU, d/w Children;s regarding possible transfer
   Total time spent: 45 minutes
   Patient is critically ill

2107-01-20 07:20:00 Physician Resident Progress Note
Chief Complaint: 25M with cerebral palsy/microcephaly presented in
   DKA/HHS.  Subsequently aspirated and developed respiratory failure,
   renal failure, and septic shock.  Organ failure resolved and pt came
   off pressors but patient developed VAP and apneic episodes on
   ventilator.
   24 Hour Events:
   [**1-19**]
   - accepted at [**Hospital1 574**]
   - NIF 19
   - tube feeds increased to 80 but only for 12h/day
   - sodium increased to 149 (likely from holding tube feeds), free water
   flushes increased to 250 q 2h overnight and then hold all tube
   feeds/h20 at 6am
   - started bactrim for stenotrophomonas
   - total net positive 1.9L
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-17**] 07:30 PM
   Micafungin - [**2107-1-19**] 05:15 PM
   Bactrim (SMX/TMP) - [**2107-1-20**] 12:00 AM
   Meropenem - [**2107-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-19**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-19**] 08:06 AM
   Other medications:
   Flowsheet Data as of  [**2107-1-20**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 113 (98 - 118) bpm
   BP: 118/71(82) {86/45(55) - 118/75(84)} mmHg
   RR: 18 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35.2 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,416 mL
                                                                  2,022 mL
   PO:
             TF:
                                                                    576 mL
                                                                    480 mL
   IVF:
                                                                  1,440 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  1,873 mL
                                                                    990 mL
   Urine:
                                                                  1,873 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,543 mL
                                                                  1,032 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 276 (201 - 276) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///26/
   NIF: -19 cmH2O
   Ve: 5.5 L/min
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
                                   Intubat
   [2][**2107-1-19**] 12:40PM
                                     [**Last Name (un) **]
                                    37.1
                                    0/18
                                     200
                                      5
                                     40
   43*[1]
                                     50*
                                    7.42
                                     34*
                                      6
                                  INTUBATED
   Physical Examination
   No change.
   554 K/uL
   8.3 g/dL
   162 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.8 mEq/L
   27 mg/dL
   104 mEq/L
   141 mEq/L
   24.8 %
   9.8 K/uL
        [image003.jpg]
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
                             [**2107-1-19**]  03:56 AM
                             [**2107-1-19**]  04:24 AM
                             [**2107-1-19**]  05:02 PM
                             [**2107-1-20**]  04:11 AM
   WBC
   12.3
   10.5
   8.4
   8.3
   7.3
   9.8
   Hct
   25.9
   21.6
   29.1
   26.6
   27.3
   23.3
   24.8
   Plt
   523
   535
   452
   549
   491
   554
   Cr
   1.7
   1.5
   1.5
   1.3
   1.2
   1.0
   1.0
   1.0
   TCO2
   33
   Glucose
   130
   170
   162
   145
   155
   140
   116
   162
   [3][image004.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [4][**2107-1-20**] 04:11AM
                                   162*[1]
                                     27*
                                     1.0
                                     141
                                     3.8
                                     104
                                     26
                                     15
   Source: Line-PICC
   [5][**2107-1-19**] 05:02PM
                                   116*[1]
                                     25*
                                     1.0
                                    149*
                                     4.5
                                    109*
                                     26
                                     19
   Source: Line-picc
   [6][**2107-1-19**] 03:56AM
                                   140*[1]
                                     32*
                                     1.0
                                     139
                                    3.2*
                                     99
                                     28
                                     15
   Source: Line-PICC
   [7][**2107-1-18**] 05:23AM
                                   155*[1]
                                     32*
                                     1.2
                                    148*
                                    3.1*
                                     103
                                     30
                                     18
   [8][image001.gif]   CHEMISTRY
                                   TotProt
                                   Albumin
                                   Globuln
                                   Calcium
                                    Phos
                                     Mg
                                   UricAcd
                                    Iron
   [9][**2107-1-20**] 04:11AM
   8.0*
                                    2.5*
                                     1.6
   Imaging: Wednesday [**2107-1-19**]
   Portable CXR
   Preliminary Report
   Preliminary reports are not available for viewing.
   DR. [**First Name (STitle) 13405**] [**Name (STitle) 13406**]
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) 13407**]
   Microbiology: [**2107-1-19**] 5:16 Viral Screen & Culture
   Source: Nasopharyngeal swab.
   Respiratory Viral Culture (Preliminary): Respiratory Viral Antigen
   Screen (Final [**2107-1-19**]):
   Negative for Respiratory Viral Antigen.
   Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
   and RSV by immunofluorescence.
   [**2107-1-19**]  STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING
   INPATIENT
   [**2107-1-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2107-1-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2107-1-17**] 2:35 pm SPUTUM      Source: Endotracheal.
   RESPIRATORY CULTURE (Final [**2107-1-19**]):
   STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    MODERATE GROWTH.
   PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
   SENSITIVITIES: MIC expressed in MCG/ML STENOTROPHOMONAS (XANTHOMONAS)
   MALTOPHILIA
   TRIMETHOPRIM/SULFA----   <=1 S
   FUNGAL CULTURE (Preliminary):
   YEAST.
   Assessment and Plan
   25M with microcephaly/CP, non-verbal at baseline, admitted with
   DKA/HHS, now with persistent respiratory failure.
   1. Respiratory failure:  Cause of initial respiratory failure was
   aspiration with resultant ARDS, which improved. But now with
   pseudomonal and stenotrophomonal VAP as per sputum cultures from
   [**Date range (1) 13319**], so now on meropenem and bactrim.
   Was improving with PSV trials. However apnea on [**1-17**] ([**Last Name **] problem)
   required switch to pressure support with MMV.
   Pt is more alert now and venous gases show no acid base disturbance.
   NIFF yesterday of 19 could be appropriate for patient given small,
   unique habitus and has 6.0mm ET tube.
   - review cxr today to eval interval change
   - continue MMV with PS not going below [**9-6**] today with bolus sedation
   - consider extubation today if not transferring to CHB
   - continue meropenem (start [**1-15**]) for pseudomonas and bactrim (start
   [**1-19**]) for stenotrophomonas. Appreciate ID recs.
   2.  Fevers: patient has had temperature elevations over past several
   days. Now with PSA/stenotrophomonas VAP but resolving leukocytosis (WBC
   9.8) and temps (Tmax=99.7, Tcurrent=98.8).  Glucan > 500 twice with
   Galactomannan negative. No osteo by x-ray/bone scan, all blood cultures
   still neg, L IJ out on Sunday, new PICC placed.
   - continue meropenem for pseudomonas in sputum
   - continue bactrim for steno tropho monas in sputum
   - continue micafungin given high glucan
   3. ARF: Cr down to 1.0 yesterday and today from peak in mid-2s, with
   good UOP (of 990ml since midnight).
   - continue to hold lasix (pt no longer appears volume overloaded and
   has insensible losses from previous fever)
   4. Hyperglycemia: well controlled on current lantus + ISS
   - continue RISS and lantus. Appreciate [**Last Name (un) 303**] recs.
   5. Hyperatremia: rose somewhat last night after holding all tube feeds
   and improved with continuation free water boluses to 250 Q4H. Na 141
   this morning.
   - continue free water boluses at 250ml Q4H
   6. Anemia: likely secondary to phlebotomy, pt had 1 unit Sat with
   appropriate response. Guaiac neg. HCT 24.8 today.
   - continue to monitor
    ICU Care
   Nutrition: Boost glucose control
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU - talk with CHB today about possible transfer.
   23:14
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
   3. javascript:command('LCBA','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
   8. javascript:command('LCBI','expand')
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);

2107-01-20 11:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   [**Hospital1 **]' transfer pending
   Nif -19
   remains on PS
   started bactrim for stenotroph pna
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-17**] 07:30 PM
   Micafungin - [**2107-1-19**] 05:15 PM
   Bactrim (SMX/TMP) - [**2107-1-20**] 12:00 AM
   Meropenem - [**2107-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-20**] 08:40 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-20**] 08:40 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-20**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 113 (98 - 118) bpm
   BP: 106/65(74) {86/45(55) - 118/75(84)} mmHg
   RR: 17 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35.2 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  3,416 mL
                                                                  2,109 mL
   PO:
             TF:
                                                                    576 mL
                                                                    480 mL
   IVF:
                                                                  1,440 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  1,873 mL
                                                                  1,430 mL
   Urine:
                                                                  1,873 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,543 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 264 (201 - 276) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: /// 25/
   NIF: -19 cmH2O
   Ve: 3.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   554 K/uL
   162 mg/dL
   1.0 mg/dL
    25
   3.8 mEq/L
   27 mg/dL
   104 mEq/L
   141 mEq/L
   24.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2107-1-15**]  04:00 PM
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
                             [**2107-1-19**]  03:56 AM
                             [**2107-1-19**]  04:24 AM
                             [**2107-1-19**]  05:02 PM
                             [**2107-1-20**]  04:11 AM
   WBC
   12.3
   10.5
   8.4
   8.3
   7.3
   9.8
   Hct
   25.9
   21.6
   29.1
   26.6
   27.3
   23.3
   24.8
   Plt
   523
   535
   452
   549
   491
   554
   Cr
   1.7
   1.5
   1.5
   1.3
   1.2
   1.0
   1.0
   1.0
   TCO2
   33
   Glucose
   130
   170
   162
   145
   155
   140
   116
   162
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:25/23, Alk Phos / T Bili:216/0.3,
   Amylase / Lipase:/33, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:26.0
   %, Mono:5.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:301 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Microbiology: viral swab neg
   stool, bl pending
   urine neg
   Assessment and Plan
   Active issues remain
   # Respiratory failure: initially [**1-4**] macro-aspiration w/ resultant
   ARDS, now w/ pseudomonal VAP.
   He is breathing spontaneously on PS, no longer riding MMV.  Continues
   to have thick secretions, but without excalation in sx needs, has
   significant oral secretions which seems to be his abseline.
   --Will con
t PSV
   My preference is to keep him intubated pending chilrderen's transfer
   today to ensure stability for transport.  If unable to transfer, I do
   think he is in the windwom of being ready for extubation attempt.
   Typical parameters are difficult to guide, as RSBI has been high.
   Would do this with anesthesai present, possible over catheter.
   # VAP
   - Completing 14 day course meropenem for PSA, and day [**1-16**] stenotroph
   --Given pos BDG we con
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 13417**], [**First Name3 (LF) **] clarify recommended treatment
   course with ID
   he is now AF with stable leukocytosis
   # ARF: Cr continues to improve, UOP remains adequate
   # hypernatremia--improved with free water
   # Hyperglycemia: well controlled on current lantus + ISS
   # anemia--no evidence of active bleeding, heme neg, likely from chronic
   ds and phlembotomy, continue to montior
   Remainder as outlined in housestaff PN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: faixed
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: family updated at bedside
   Code status: DNR (do not resuscitate)
   Disposition :possible transfer to chrildren's
   Total time spent: 40 minutes

2107-01-21 06:52:00 Physician Resident Progress Note
Chief Complaint: 25M with cerebral palsy/microcephaly who presented in
   DKA.  Subsequently aspirated and developed multiorgansystem failure.
   Now with persistent respiratory failure with periods of apnea.
   24 Hour Events:
 SPUTUM CULTURE - At [**2107-1-20**] 11:33 PM
   [**1-20**]
   - No bed at [**Hospital1 574**] on Thursday
   - Stopped micafungin, but id wanted voriconazole given repeated high
   beta glucans (not clearing on micafungin). b-glucan sensitive for
   fungal (aspirgillosus), while galactomannan neg this is specific but
   less sensitive for aspirg and fungal infx can occur in pts w/ dka.
   - Increased bactrim dosing
   - Restarted tube feeds
   - Did not extubate bc had periods of apnea
   - Got 500 cc bolus, looked somewhat dehydrated, not drooling
   - Patient desated overnight to 90%; improved w/ Chest PT and suctioning
   (suggest chest PT regularly)
   - Phos, Mag, K repleted
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2107-1-19**] 05:15 PM
   Meropenem - [**2107-1-21**] 03:41 AM
   Bactrim (SMX/TMP) - [**2107-1-21**] 05:49 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-20**] 08:40 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-20**] 07:47 PM
   Other medications:
   Flowsheet Data as of  [**2107-1-21**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 107 (100 - 125) bpm
   BP: 99/53(64) {95/51(62) - 134/81(92)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35.2 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  5,400 mL
                                                                  1,685 mL
   PO:
             TF:
                                                                  1,120 mL
                                                                    417 mL
   IVF:
                                                                  2,540 mL
                                                                    727 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    380 mL
   Urine:
                                                                  2,830 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,570 mL
                                                                  1,305 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 280 (244 - 280) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 5.8 L/min
   [1][image001.gif]   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
                                   Comment
   [2][**2107-1-21**] 05:08AM
   37.8
                                     /22
                                     280
                                      5
                                     40
   90
                                     26*
                                    7.53*
                                     22
                                      0
                                ASSIST/CON[1]
                                  INTUBATED
                                  GREEN TOP
   [3][**2107-1-20**] 12:07PM
                                     [**Last Name (un) **]
   48*[2]
                                     45
                                    7.43
                                     31*
                                      4
   [4][**2107-1-19**] 12:40PM
                                     [**Last Name (un) **]
                                    37.1
                                    0/18
                                     200
                                      5
                                     40
   43*[2]
                                     50*
                                    7.42
                                     34*
                                      6
   INTUBATED
   [5][**2107-1-19**] 04:24AM
                                     ART
   46*[3]
                                     47*
                                    7.44
                                     33*
                                      6
   Physical Examination
   No changes.
   474 K/uL
   7.2 g/dL
   143 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   22 mg/dL
   109 mEq/L
   144 mEq/L
   21.5 %
   6.6 K/uL
        [image003.jpg]
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
                             [**2107-1-19**]  03:56 AM
                             [**2107-1-19**]  04:24 AM
                             [**2107-1-19**]  05:02 PM
                             [**2107-1-20**]  04:11 AM
                             [**2107-1-21**]  03:36 AM
   WBC
   12.3
   10.5
   8.4
   8.3
   7.3
   9.8
   6.6
   Hct
   21.6
   29.1
   26.6
   27.3
   23.3
   24.8
   21.5
   Plt
   523
   535
   452
   549
   491
   554
   474
   Cr
   1.5
   1.5
   1.3
   1.2
   1.0
   1.0
   1.0
   0.8
   TCO2
   33
   Glucose
   170
   162
   145
   155
   140
   116
   162
   143
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:25/23, Alk Phos / T Bili:216/0.3,
   Amylase / Lipase:/33, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:26.0
   %, Mono:5.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:301 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.1
   mg/dL
   [6][image001.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [7][**2107-1-21**] 03:36AM
                                   143*[1]
                                     22*
                                     0.8
                                     144
                                     3.5
                                    109*
                                     23
                                     16
   Source: Line-PICC
   [8][**2107-1-20**] 04:11AM
                                   162*[1]
                                     27*
                                     1.0
                                     141
                                     3.8
                                     104
                                     26
                                     15
   Source: Line-PICC
   [9][**2107-1-19**] 05:02PM
                                   116*[1]
                                     25*
                                     1.0
                                    149*
                                     4.5
                                    109*
                                     26
                                     19
   Source: Line-picc
   [10][**2107-1-19**] 03:56AM
                                   140*[1]
                                     32*
                                     1.0
                                     139
                                    3.2*
                                     99
                                     28
                                     15
   Source: Line-PICC
   [11][**2107-1-18**] 05:23AM
                                   155*[1]
                                     32*
                                     1.2
                                    148*
                                    3.1*
                                     103
                                     30
                                     18
   [12][image004.gif]   CHEMISTRY
                                   TotProt
                                   Albumin
                                   Globuln
                                   Calcium
                                    Phos
                                     Mg
                                   UricAcd
                                    Iron
   [13][**2107-1-21**] 03:36AM
   7.5*
                                    2.1*
                                     1.6
   Imaging: [**2107-1-19**] 12:00 N
   COMPARISON: Portable AP chest radiograph [**2107-1-17**].
   TECHNIQUE: Portable AP chest radiograph.
   IMPRESSION:
   1. Worsened mild-to-moderate pulmonary edema since [**2107-1-3**], may
   obscure
   small regions of pneumonia.
   2. Bilateral small pleural effusions are increased since [**2107-1-17**].
   3. Increased left lower lobe atelectasis or pneumonia, depending on the
   clinical setting.
   The study and the report were reviewed by the staff radiologist.
   Approved: [**Doctor First Name **] [**2107-1-20**] 4:09 PM
   Microbiology:
   [**2107-1-20**] 11:14 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2107-1-21**]):
   >25 PMNs and <10 epithelial cells/100X field.
   2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
   [**2107-1-19**]  STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING
   INPATIENT
   [**2107-1-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2107-1-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   25M with microcephaly/CP, non-verbal at baseline, admitted with
   DKA/HHS, now with persistent respiratory failure.
   1. Respiratory failure:  Cause of initial respiratory failure was
   aspiration with resultant ARDS, which improved. But now with
   pseudomonal and stenotrophomonal VAP as per sputum cultures from
   [**Date range (1) 13319**], so now on meropenem and bactrim.
   Was improving with PSV trials. However episodes of apnea started on
   [**1-17**] and required switch to pressure support with MMV.
   CXR from [**1-19**] showed possible worsening of pulmonary edema and possibly
   of effusions.
   VBG from today showed pH = 7.53 and CO2 = 26.
   Respiratory assessments must consider that patient has small, unique
   habitus and has 6.0mm ET tube.
   - Wean down vent
s MMV settings (currently Vol=280 and RR=12) since he
   has been overventilated as evidenced by his VBG.  We want CO2 back up
   to his baseline (likely above 40) for goal of extubation today, since
   CHB does not have a bed
   - order cxr today to eval interval change
   - continue MMV with PS not going below [**9-6**] today with bolus sedation
   - continue meropenem (start [**1-15**]) for pseudomonas and bactrim (start
   [**1-19**]) for stenotrophomonas.
   - continue voriconazole as per ID recs.  Ask ID if we should repeat
   BGlucan and Galacto.
   2.  Fevers: Improving. Patient has had temperature elevations over past
   several days. Now with PSA/stenotrophomonas VAP but resolving
   leukocytosis (WBC 9.8) and temps (Tmax=99.7, Tcurrent=98.8).  Glucan >
   500 twice with Galactomannan negative. No osteo by x-ray/bone scan, all
   blood cultures still neg, L IJ out on Sunday, new PICC placed.
   - continue meropenem for pseudomonas in sputum
   - continue bactrim for steno tropho monas in sputum
   - continue micafungin given high glucan
   3. ARF: Resolved. Cr down to 0.8 today from peak in mid-2s, with good
   UOP (of 380ml since midnight).
   - continue to hold lasix (pt no longer appears volume overloaded and
   has insensible losses from previous fever)
   4. Hyperglycemia: Resolved. well controlled on current lantus + ISS
   - continue RISS and lantus. Appreciate [**Last Name (un) 303**] recs.
   5. Hyperatremia: stable at 144 today
   - continue free water boluses at 250ml Q4H
   6. Anemia: likely secondary to phlebotomy, pt had 1 unit this morning
   after HCT showed 21.5 (last transfusion was HCT 21.6)
   - continue to monitor HCT
   ICU Care
   Nutrition: Boost glucose control
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU - talk with CHB today about possible transfer.
   11:38
References
   1. javascript:command('LGBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_28%22);
   6. javascript:command('LCBA','expand')
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
  12. javascript:command('LCBI','expand')
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);

2107-01-21 11:04:00 Physician Attending Progress Note
Chief Complaint: DKA/HNK, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  25M microcephaly, CP, non-verbal at baseline, admitted with
   DKA/HNK, now with persistent respiratory failure and VAP.
   24 Hour Events:
 SPUTUM CULTURE - At [**2107-1-20**] 11:33 PM
   Micofungin changed to voriconizole
   TFs restarted
   Continued to have intermittent apneic episodes on vent, and now more
   alkalotic
   Transfusing 1 unit prbc's for slow hct decline
   [**Hospital 1861**] transfer to [**Hospital3 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2107-1-19**] 05:15 PM
   Meropenem - [**2107-1-21**] 03:41 AM
   Bactrim (SMX/TMP) - [**2107-1-21**] 05:49 AM
   Voriconazole - [**2107-1-21**] 08:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-1-20**] 07:47 PM
   Pantoprazole (Protonix) - [**2107-1-21**] 07:59 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-21**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 104 (100 - 125) bpm
   BP: 106/55(68) {98/52(62) - 134/81(92)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 35.2 kg (admission): 37 kg
   Height: 56 Inch
           Total In:
                                                                  5,400 mL
                                                                  2,075 mL
   PO:
           TF:
                                                                  1,120 mL
                                                                    417 mL
   IVF:
                                                                  2,540 mL
                                                                  1,010 mL
   Blood products:
   48 mL
   Total out:
                                                                  2,830 mL
                                                                    740 mL
   Urine:
                                                                  2,830 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,570 mL
                                                                  1,335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 309 (244 - 309) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 3.9 L/min
   Physical Examination
   Awake, NAD
   CTA ant with diminished basilar BS
   RR
   +BS, NT, soft
   Warm ext, TEDS on LE, no peripheral edema
   Labs / Radiology
   7.2 g/dL
   474 K/uL
   143 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   22 mg/dL
   109 mEq/L
   144 mEq/L
   21.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2107-1-16**]  05:53 AM
                             [**2107-1-16**]  04:20 PM
                             [**2107-1-17**]  03:48 AM
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
                             [**2107-1-19**]  03:56 AM
                             [**2107-1-19**]  04:24 AM
                             [**2107-1-19**]  05:02 PM
                             [**2107-1-20**]  04:11 AM
                             [**2107-1-21**]  03:36 AM
   WBC
   12.3
   10.5
   8.4
   8.3
   7.3
   9.8
   6.6
   Hct
   21.6
   29.1
   26.6
   27.3
   23.3
   24.8
   21.5
   Plt
   523
   535
   452
   549
   491
   554
   474
   Cr
   1.5
   1.5
   1.3
   1.2
   1.0
   1.0
   1.0
   0.8
   TCO2
   33
   Glucose
   170
   162
   145
   155
   140
   116
   162
   143
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:291/7/0.06, ALT / AST:25/23, Alk Phos / T Bili:216/0.3,
   Amylase / Lipase:/33, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:26.0
   %, Mono:5.0 %, Eos:4.0 %, Fibrinogen:567 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:301 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.1
   mg/dL
   Imaging: cxr pending
   Microbiology: no new data, pending
   Assessment and Plan
   # Respiratory failure: initially [**1-4**] macro-aspiration w/ resultant
   ARDS, now w/ resolving PSA and stenotroph VAP.
   . Continues to have thick secretions and oral secretions, though
   without increased sx requirements. Continues to have intermittent
   apneas on vent . Was briefly on apnea mode yesterday and now appears
   overventilated w/ more alkalotic ABG.  This is most likely contributing
   to a  decreased resp drive. Pt very likely has some component of
   underlying central and/or obstructive sleep disordered breathing at
   baseline.  Typical parameters to guide extubation are difficult to
   follow in this pt, and his RSBI remains high. Will check for air leak,
   noting difficulty with sx and difficult intubation. He seems close to
   ready for extubation attempt, pending improvement in alkalosis.
   --will optimize MV on MMV to prevent over breathing/alkalosis and allow
   his CO2 to equilibriate to baseline elevation.
   --repeat VBG and reassess this afternoon for extubation attempt
   --he is at risk for reintubation and would procede with anesthesia
   present, possible over catheter.
   # VAP
remains AF (low grade) w/o leukocytosis
   - Day [**6-15**] meropenem for PSA and Bactrim day [**2-13**] for stenotroph
   --Given pos BDG we have changed to vori and will reasses fungal
   markers.
   # Low grade temp
has had extensive inf eval/ we continue with vigilant
   infection assessment
   Repeat cxr  and ua/cx
   Consider re-evaluation of sinuses, for AFL
   # ARF: Cr improved, UOP remains adequate
   #Hypernatremia--resolved with free water
   # Hyperglycemia: well controlled on current lantus + ISS
   # anemia--no evidence of active bleeding, heme neg stool, likely from
   chronic ds and phlebotomy, transfused today and continue to monitor and
   minimize blood draws
   Remainder as outlined in housestaff PN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed
   Lines:
   PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: at bedside
   Code status: DNR (do not resuscitate)
   Disposition : ICU, awaiting transfer to Children
   Total time spent: 45 minutes
   Patient is critically ill

2107-01-22 08:08:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - No bed at [**Hospital1 574**]
   - Pt became apneic again and therefore did not extubate, however these
   apneic episodes are most likely his baseline
   - VBG looked better after vent adjustments to undervent
   - Had HCT drop to 21.5 [**1-4**] likely phlebotomy, received 1 unit PRBCs
   with improvement to 29.5
   - No changes in management per ID or [**Last Name (un) 303**]
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: non-verbal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2107-1-19**] 05:15 PM
   Voriconazole - [**2107-1-21**] 08:02 PM
   Meropenem - [**2107-1-22**] 04:23 AM
   Bactrim (SMX/TMP) - [**2107-1-22**] 06:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-1-21**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2107-1-22**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 89 (89 - 113) bpm
   BP: 95/59(68) {82/45(55) - 122/83(92)} mmHg
   RR: 18 (7 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 35.2 kg (admission): 37 kg
   Height: 56 Inch
             Total In:
                                                                  4,828 mL
                                                                    678 mL
   PO:
             TF:
                                                                    667 mL
   IVF:
                                                                  3,141 mL
                                                                    678 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,775 mL
                                                                    625 mL
   Urine:
                                                                  1,775 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,053 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 230 (230 - 309) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.37/45/52/21/0
   Ve: 4.2 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   523 K/uL
   9.0 g/dL
   124 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   19 mg/dL
   112 mEq/L
   145 mEq/L
   27.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2107-1-17**]  05:04 AM
                             [**2107-1-18**]  05:23 AM
                             [**2107-1-19**]  03:56 AM
                             [**2107-1-19**]  04:24 AM
                             [**2107-1-19**]  05:02 PM
                             [**2107-1-20**]  04:11 AM
                             [**2107-1-21**]  03:36 AM
                             [**2107-1-21**]  01:32 PM
                             [**2107-1-21**]  04:49 PM
                             [**2107-1-22**]  03:56 AM
   WBC
   8.4
   8.3
   7.3
   9.8
   6.6
   6.3
   Hct
   26.6
   27.3
   23.3
   24.8
   21.5
   29.5
   27.3
   Plt
   452
   549
   491
   554
   474
   523
   Cr
   1.2
   1.0
   1.0
   1.0
   0.8
   0.8
   TCO2
   33
   27
   Glucose
   155
   140
   116
   162
   143
   124
   Other labs: Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: .
   Imaging:
   Microbiology:
   Sputum from [**1-20**] with 2+ GNRs (from 4+ on [**1-17**])
   Assessment and Plan
   5M with microcephaly/CP, non-verbal at baseline, admitted with DKA/HHS,
   now with persistent respiratory failure.
   1. Respiratory failure:  Cause of initial respiratory failure was
   aspiration with resultant ARDS, which improved. But now with
   pseudomonal and stenotrophomonal VAP as per sputum cultures from
   [**Date range (1) 13319**], so now on meropenem and bactrim.
   Was improving with PSV trials. However episodes of apnea started on
   [**1-17**] and required switch to pressure support with MMV.
   Respiratory assessments must consider that patient has small, unique
   habitus and has 6.0mm ET tube.
   - consider extubation as VBG improved
   2.  VAP
   - continue meropenem (start [**1-15**], day [**7-16**]) for pseudomonas and bactrim
   (start [**1-19**], day [**3-16**]) for stenotrophomonas.
   - continue voriconazole as per ID recs.  Ask ID when we should repeat
   BGlucan and Galacto.
   3. Fevers, low grade
   Infectious w/u negative. Micafungin changed to voriconazole.
   - monitor
   - consider further w/u of sinus disease
   4. ARF:
   -resolved
   - good UOP
   5. Hyperglycemia: Resolved. well controlled on current lantus + ISS
   - continue RISS and lantus. Appreciate [**Last Name (un) 303**] recs.
   6. Hyperatremia: stable at 145 today
   - continue free water boluses at 250ml Q4H
   7. Anemia: likely secondary to phlebotomy, stable
   - continue to monitor HCT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Hypoventilatory, chronic CO2 retention and unable to ventilate in
   setting of metabolic acidosis
 PNEUMONIA, ASPIRATION
   CXR and CT documented.
 ANEMIA, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 DIARRHEA
 HYPERNATREMIA (HIGH SODIUM)
   Normalizing
 RASH
   ICU Care
   Nutrition: Boost glucose control
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: PICC Line - [**2107-1-14**] 04:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: parents
   Code status: DNR (do not resuscitate)
   Disposition: ICU - talk with CHB today about possible transfer.